2112-01-29 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2112-1-28**] 10:50 AM
 EKG - At [**2112-1-29**] 05:59 AM
 FEVER - 101.7
F - [**2112-1-28**] 02:00 PM
   TTE: normal systolic fcn (EF 55%), mild/mod MR [**First Name (Titles) **] [**Last Name (Titles) **] HTN
   Head CT wnl
   -transfusing 2 U PRBCs for Hct 21.6, received lasix in between units.
   -HR came down to 80s, still in a fib.  Stopped dilt and transitioned IV
   metoprolol --> HR went back up and changed back to dilt drip.  Pt
   extremely agitated whenever urinating with increased HR up to 180s
   (looked like flutter).  Required extra ativan, with lopressor 5 mg IV
   push, then HR came down. (this happened 3 times).
   -Also noticed maculopapular rash on back when agitated -> maybe drug
   rash?
   -this am, morphology of rhythm looked different on tele monitor, got
   ecg and did not look significantly different from prior, except maybe
   more significant TWI in V3.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-28**] 04:30 PM
   Acyclovir - [**2112-1-28**] 08:00 PM
   Micafungin - [**2112-1-28**] 08:55 PM
   Cefipime - [**2112-1-29**] 03:27 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-1-28**] 12:00 PM
   Hydralazine - [**2112-1-28**] 01:18 PM
   Meperidine (Demerol) - [**2112-1-28**] 10:44 PM
   Furosemide (Lasix) - [**2112-1-29**] 12:15 AM
   Morphine Sulfate - [**2112-1-29**] 12:59 AM
   Lorazepam (Ativan) - [**2112-1-29**] 04:23 AM
   Metoprolol - [**2112-1-29**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-29**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.2
C (100.7
   HR: 105 (84 - 160) bpm
   BP: 142/73(91) {101/39(54) - 173/80(93)} mmHg
   RR: 21 (18 - 39) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,584 mL
                                                                    271 mL
   PO:
             TF:
   IVF:
                                                                    656 mL
                                                                    271 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                    910 mL
                                                                      0 mL
   Urine:
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    674 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   30 K/uL
   10.8 g/dL
   124 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   29 mg/dL
   106 mEq/L
   139 mEq/L
   31.2 %
   0.1 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
   WBC
   0.1
   0.1
   Hct
   21.6
   31.2
   Plt
   49
   30
   Cr
   1.4
   Glucose
   124
   Other labs: PT / PTT / INR:13.6/33.7/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:80.0 %, Mono:20.0 %, Eos:0.0 %, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: [**1-28**] CXR: marked increased in bilateral pleural effusions.
   Also increased are size of the cardiac silhouette and the extent of the
   retrocardiac atelectasis
   [**1-28**] Head CT: No evidence of acute hemorrhage, edema or mass effect.
   [**1-28**] ECHO: Globally preserved LV function. Mild-mod mitral regurg.
   Mild-mod pulm HTN.
   Microbiology: [**1-25**] Cdiff neg.
   All blood cx NGTD
   [**1-23**] Urine Cx: 10,000-100,000 VRE, Dapto sensi
s pending.
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s this AM in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.
   #. Tachycardia:
   Per cardiology read of EKG on admission to the ICU, patient's curent
   rhythm is atypical atrial flutter with variable conduction to
   ventricles. She has certainly had atrial fibrillation with RVR earlier
   in her hospital course. Possible that her recent episodes of atrial
   fib/flutter are due to or exacerbated by volume overload. Current
   evidence of overload is pulmonary edema, peripheral edema, JVP
   elevation, increasing weight. Complicating her tachycardia is her
   fever, which was as high as 102.1 early this AM. Regarding long-term
   managment of atrial fib/flutter, her CHADS2 score is 2 (age and
   hypertension) and she will eventually require consideration for
   anticoagulation, though platelet count of 12 precludes that currently.
   - Diltiazem drip
   - Control fever as much as possible
   - Diueresis given her clinical exam consistent with volume overload and
   her pulmonary edema per recent CT scan
   - Daily weights
   - Appreciate cardiology input
   #. Altered mental status:
   Most consistent with delirium, though fevers are concerning for
   possible CNS infection.  Patient reportedly withdrawing compared to
   prior interactions with healthcare teams. Concerning that her mental
   status changes are coming in setting of PLT count of 14 and 12 in last
   two days. Additional consideration that patient is having febrile
   neutropenia and encephalitis or meningitis could be contributing.
   - STAT head CT
   - Follow-up PLT count
   - Increase cefepime to Q8H and increase daptomycin to 6 mg/kg for
   additional CNS coverage
   - Consider MRI if ongoing concern for infectious etiologies of AMS
   - Consider neurology consult if no clearing of mental status
   #. Hypoxia:
   Patient with new oxygen requirement in the last few days. Currently
   mid-90s on 3L NC. Pulmonary exam with upper airway coarse sounds and
   bilbasilar crackles. Possible that hypoxia is all due to pulmonary
   edema from poor LV filling in setting of LVH and tachycardia.
   - Control HR and BP as above
   - Trend supplemental oxygen requirement with diuersis and resolution of
   tachycardia as above
   - CXR to assess for any focal consolidation
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +6.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:
   Patient's ANC this AM was 5. Tmax in last 24 hours was 102.1 at 0100
   today. Prior to transfer to ICU, temperature was down to 99.9.
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 5), cefepime (currently day 8),
   daptomycin (currently day 4), acyclovir (currently day 9)
   #. VRE UTI:
   Urine culture positive from [**2112-1-23**]. Sensitive to linezolid;
   however, BMT did not want to use linezolid due to marrow suppression.
   Daptomycin was started on [**2112-1-26**] and daptomycin sensitivies are
   pending.
   - ID consult input appreciated
   - Continue daptomycin (currently day 4)
   - Await urine culture sensitivities for daptomycin
   #. Thrombocytopenia:
   Patient received a bag of platelets this AM for PLT count of 12.
   - Post-transfusion PLT count
   - Trend PLTs
   #. Hypertension:
   End-organ damage given LVH on EKGs. Patient has not had hypotension
   during her current course.
   - Additional diuresis as above
   - Consider afterload reduction with IV hydralazine if blood pressure
   greater than 150s systolic while on diltiazem drip
   ICU Care
   Nutrition: Regular low bacteria diet as allowed by her mucositis, TPN
   w/ Lipids - [**2112-1-28**] 10:49 AM 65 mL/hour
   Glycemic Control: [**Hospital1 7**] FSBS with HISS
   Lines: Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   - DVT ppx with pneumoboots
   - Bowel regimen will be added as needed
   - Pain management with PRN morphine IV
   Communication:  [**Name (NI) **] husband, [**Name (NI) 478**] [**Name (NI) 12343**], [**Telephone/Fax (1) 12344**] or
   [**Telephone/Fax (1) 12345**]
   Code status: Full code
   Disposition: ICU for now while requiring diltiazem drip for control of
   atrial fib/flutter

2112-01-29 11:49:00 Physician Attending Progress Note
Chief Complaint: tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo female with [**Hospital 12350**] hosp for auto-SCT [**1-22**] complicated by febrile
   neutropenia, VRE UTI, AMS, mucositis
   Transferred for rapid afib/pulmonary edema
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2112-1-28**] 10:50 AM
 EKG - At [**2112-1-29**] 05:59 AM
 FEVER - 101.7
F - [**2112-1-28**] 02:00 PM
   Unable to transition to orals for HR control- back on dilt control
   pt intermittently agitated requiring ativan
   Tachycardia highly correlated to degree of agitation
   History obtained from [**Hospital 15**] Medical records, ICU housestaff
   Patient unable to provide history: confused
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-28**] 04:30 PM
   Micafungin - [**2112-1-28**] 08:55 PM
   Cefipime - [**2112-1-29**] 03:27 AM
   Acyclovir - [**2112-1-29**] 08:24 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Hydralazine - [**2112-1-28**] 01:18 PM
   Meperidine (Demerol) - [**2112-1-28**] 10:44 PM
   Furosemide (Lasix) - [**2112-1-29**] 12:15 AM
   Metoprolol - [**2112-1-29**] 05:58 AM
   Pantoprazole (Protonix) - [**2112-1-29**] 08:00 AM
   Morphine Sulfate - [**2112-1-29**] 09:00 AM
   Haloperidol (Haldol) - [**2112-1-29**] 09:24 AM
   Lorazepam (Ativan) - [**2112-1-29**] 10:30 AM
   Other medications:
   protonix, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-29**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.3
C (97.4
   HR: 140 (84 - 160) bpm
   BP: 171/70(120) {101/39(54) - 173/89(120)} mmHg
   RR: 25 (19 - 39) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.8 kg (admission): 65.5 kg
             Total In:
                                                                  1,584 mL
                                                                    494 mL
   PO:
             TF:
   IVF:
                                                                    656 mL
                                                                    494 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                    910 mL
                                                                      0 mL
   Urine:
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    674 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Sleeping, appears comfortable
   Lungs: bilateral rhonchi, sats 92-93% on 6 liters nc.
   CV: tachycardic, irregular
   Abd: soft, nontender
   Skin: no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   30 K/uL
   124 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   29 mg/dL
   106 mEq/L
   139 mEq/L
   31.2 %
   0.1 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
   WBC
   0.1
   0.1
   Hct
   21.6
   31.2
   Plt
   49
   30
   Cr
   1.4
   Glucose
   124
   Other labs: PT / PTT / INR:13.6/33.7/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:80.0 %, Mono:20.0 %, Eos:0.0 %, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: head CT negative
   pCXR with bilateral effusions
   Echo: n'l LVEF, mild MR
   Microbiology: Cdiff negative [**1-25**]
   Multiple blood cultures NGTD
   [**1-23**] urine culture; 10-100K VRE
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   1. Rapid afib: remains on dilt infusion as she did not tolerate
   attempts to convert to oral beta blocker yesterday. HIghly affected by
   agitation.
   Will try to convert back to bolus lopressor
   Control agitation with pain meds/haldol
   Keep K>4, Mg>2
   Discuss further management with BMT/cards team? Chemical cardioversion
   2. AMS
   Some component of delirium- good response to haldol
   Start scheduled haldol based on prn needs
   3. Febrile neutropenia:broadly covered with cefipime/dapto/micofungin.
   f/u VRE UrCx sensitivities.
   4. Acute pulmonary edema/hypoxia: appears volume overloaded- will
   diurese
   5. MM day +7 s/p auto-SCT. Remains pancytopenic, support as needed. BMT
   team following.
   ICU Care
   Nutrition:
   TPN
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Pt is critically ill

2112-01-30 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Febrile neutropenia, mucositis, altered mental status
   24 Hour Events:
 BLOOD CULTURED - At [**2112-1-30**] 12:19 AM
 FEVER - 103.6
F - [**2112-1-30**] 01:00 AM
   - Very agitated in the morning, got morphine, ativan, haldol, both PRN
   and one-time doses.  Later less responsive, non-verbal, unable to
   follow commands, though tachycardia improved.
   - 5pm very somnolent, ABG 7.48/30/88, CXR shows possible increased
   R-sided pleural effusion.  Cr stable at 1.4 so 20mg IV lasix given.  O2
   sats improved.
   - BMT recs: worried daptomycin contributing to altered MS, want to
   consider stopping (start vanco instead) as follow-up urine cx have been
   negative. Want us to hold diuresis given AM Cr.
   - ID recs: change cefepime to meropenem and consider increasing
   acyclovir dose for better CNS penetration.  Acyclovir already at
   treating dose and Dr. [**Last Name (STitle) 383**] worried about worsening renal
   function, so not changed.  Want us to consider LP, and if not LP, head
   MRI if persistently altered.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-28**] 04:30 PM
   Cefipime - [**2112-1-29**] 10:00 AM
   Acyclovir - [**2112-1-29**] 07:53 PM
   Micafungin - [**2112-1-29**] 08:41 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-1-29**] 08:00 AM
   Morphine Sulfate - [**2112-1-29**] 01:30 PM
   Metoprolol - [**2112-1-29**] 01:35 PM
   Furosemide (Lasix) - [**2112-1-29**] 06:52 PM
   Lorazepam (Ativan) - [**2112-1-29**] 07:12 PM
   Hydromorphone (Dilaudid) - [**2112-1-29**] 10:41 PM
   Meperidine (Demerol) - [**2112-1-30**] 03:55 AM
   Haloperidol (Haldol) - [**2112-1-30**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-30**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 39.3
C (102.8
   HR: 107 (85 - 148) bpm
   BP: 126/52(67) {95/40(56) - 171/96(120)} mmHg
   RR: 40 (14 - 42) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.8 kg (admission): 65.5 kg
             Total In:
                                                                  1,010 mL
                                                                    169 mL
   PO:
             TF:
   IVF:
                                                                  1,010 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    225 mL
   Urine:
                                                                    990 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/30/87.[**Numeric Identifier 181**]/23/0
   PaO2 / FiO2: 88
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   15 K/uL
   10.6 g/dL
   166 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   36 mg/dL
   98 mEq/L
   129 mEq/L
   30.8 %
   0.1 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
                            [**2112-1-29**]  05:01 PM
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   21.6
   31.2
   30.8
   Plt
   49
   30
   15
   Cr
   1.4
   1.4
   1.7
   TCO2
   23
   Glucose
   124
   120
   166
   Other labs: PT / PTT / INR:14.4/33.9/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Imaging: [**1-29**] CXR: low lung volumes, largely unchanged.
   Microbiology: Blood cx all NGTD.
   [**1-25**] Urine cx w/ VRE.
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s this AM in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.
   #. Altered mental status:
   Most consistent with delirium, though fevers are concerning for
   possible CNS infection.  Patient reportedly withdrawing compared to
   prior interactions with healthcare teams. Additional consideration that
   patient is having febrile neutropenia and encephalitis or meningitis
   could be contributing.  CT head was normal, without evidence of bleed.
   Her agitation drives her tachycardia, so we have been intermittently
   using morphine, ativan and haldol to calm her.  She is nearly
   non-verbal, making it difficult to assess her pain.
   - PRN haldol for now, if working well/using regularly, can switch to
   standing dose.
   - Increase cefepime to Q8H and increase daptomycin to 6 mg/kg for
   additional CNS coverage
   - Consider MRI if ongoing concern for infectious etiologies of AMS
   - Continue PRN ativan and morphine.
   - [**Month (only) 51**] consider daptomycin as contributing to delirium.
   #. Tachycardia:
   Today appears to be in Afib with RVR. Possible that her recent episodes
   of atrial fib/flutter are due to or exacerbated by volume overload.
   Current evidence of overload is pulmonary edema, peripheral edema, JVP
   elevation, increasing weight. Complicating her tachycardia is continued
   fever.  CHADS2 score is 2 (age and hypertension), so she will
   eventually require consideration for anticoagulation, though platelet
   count of 12 precludes that currently.
   - Continue diltiazem drip w/ PRN lopressor when not controlled.
   - Consider amiodarone or digoxin.  Amiodarone would likely be more
   effective, but may cause cardioversion and it is impossible to know
   without a TEE or prolonged anticoagulation whether he has a [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 5624**].  Digoxin may be more realistic at this point.
   - Control fever as much as possible
   - Continue diuresis as creatinine allows.
   - Daily weights
   - Appreciate cardiology input
   #. Hypoxia:
   Patient with new oxygen requirement in the last few days. Currently
   mid-90s on 3L NC. Pulmonary exam with upper airway coarse sounds and
   bilbasilar crackles. Possible that hypoxia is all due to pulmonary
   edema from poor LV filling in setting of LVH and tachycardia.  This
   hypothesis supported by worsening hypoxia when tachy to 150s.
   - Control HR and BP as above
   - Diuresis as creatinine allows.
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +7.  Will likely nadir until days [**12-19**].
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:
   Patient's ANC now 0. Patient persistently febrile on micafungin,
   cefepime, daptomycin and acyclovir.
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 5), cefepime (currently day 8),
   daptomycin (currently day 4), acyclovir (currently day 9)
   #. VRE UTI:
   Urine culture positive from [**2112-1-23**]. Sensitive to linezolid;
   however, BMT did not want to use linezolid due to marrow suppression.
   Daptomycin sensitive, so dapto started on [**2112-1-26**].
   - ID consult input appreciated
   - Continue daptomycin (currently day 4)
   - Await urine culture sensitivities for daptomycin
   #. Hypertension:
   Normal ventricular function on Echo. Patient has not had hypotension
   during her current course.
   - Additional diuresis as above
   - Consider afterload reduction with IV hydralazine once HR controlled
   ICU Care
   Nutrition: Regular low bacteria diet as allowed by her mucositis, TPN
   w/ Lipids - [**2112-1-28**] 10:49 AM 65 mL/hour
   Glycemic Control: [**Hospital1 7**] FSBS with HISS
   Lines: Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   - DVT ppx with pneumoboots
   - Bowel regimen will be added as needed
   - Pain management with PRN morphine IV
   Communication:  [**Name (NI) **] husband, [**Name (NI) 478**] [**Name (NI) 12343**], [**Telephone/Fax (1) 12344**] or
   [**Telephone/Fax (1) 12345**]
   Code status: Full code
   Disposition: ICU for now while febrile and altered

2112-01-30 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: febrile neutropenia, altered mental status
   24 Hour Events:
 BLOOD CULTURED - At [**2112-1-30**] 12:19 AM
 FEVER - 103.6
F - [**2112-1-30**] 01:00 AM
   - Very agitated in the morning, got morphine, ativan, haldol, both PRN
   and one-time doses.  Later less responsive, non-verbal, unable to
   follow commands, though tachycardia improved.
   - 5pm very somnolent, ABG 7.48/30/88, CXR shows possible increased
   R-sided pleural effusion.  Cr stable at 1.4 so 20mg IV lasix given.  O2
   sats improved.
   - BMT recs: worried daptomycin contributing to altered MS, want to
   consider stopping (start vanco instead) as follow-up urine cx have been
   negative. Want us to hold diuresis given AM Cr.
   - ID recs: change cefepime to meropenem and consider increasing
   acyclovir dose for better CNS penetration.  Acyclovir already at
   treating dose and Dr. [**Last Name (STitle) 383**] worried about worsening renal
   function, so not changed.  Want us to consider LP, and if not LP, head
   MRI if persistently altered.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-28**] 04:30 PM
   Cefipime - [**2112-1-29**] 10:00 AM
   Acyclovir - [**2112-1-29**] 07:53 PM
   Micafungin - [**2112-1-29**] 08:41 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-1-29**] 08:00 AM
   Morphine Sulfate - [**2112-1-29**] 01:30 PM
   Metoprolol - [**2112-1-29**] 01:35 PM
   Furosemide (Lasix) - [**2112-1-29**] 06:52 PM
   Lorazepam (Ativan) - [**2112-1-29**] 07:12 PM
   Hydromorphone (Dilaudid) - [**2112-1-29**] 10:41 PM
   Meperidine (Demerol) - [**2112-1-30**] 03:55 AM
   Haloperidol (Haldol) - [**2112-1-30**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 39.3
C (102.8
   HR: 107 (85 - 148) bpm
   BP: 126/52(67) {95/40(56) - 171/96(120)} mmHg
   RR: 40 (14 - 42) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.8 kg (admission): 65.5 kg
             Total In:
                                                                  1,010 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                  1,010 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    225 mL
   Urine:
                                                                    990 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/30/87.[**Numeric Identifier 181**]/23/0
   PaO2 / FiO2: 88
   Physical Examination
   Lying in bed with eyes closed, will open eyes when spoken to but does
   not track.  Severe mucositis persists.  Resists movement of neck, but
   no clear signs of meningismus.  Heart tachycardic, no audible m/r/g.
   Lungs clear anteriorly.  Does not react to abdominal palpation and
   abdomen soft, NTND.  No LE edema.  Arms and legs difficult to
   manipulate, but unclear whether patient resistance or increased muscle
   tone.
   Labs / Radiology
   15 K/uL
   10.6 g/dL
   166 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   36 mg/dL
   98 mEq/L
   129 mEq/L
   30.8 %
   0.1 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
                            [**2112-1-29**]  05:01 PM
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   21.6
   31.2
   30.8
   Plt
   49
   30
   15
   Cr
   1.4
   1.4
   1.7
   TCO2
   23
   Glucose
   124
   120
   166
   Other labs: PT / PTT / INR:14.4/33.9/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Imaging: [**1-29**] CXR: Low lung volumes. Bilateral pleural effusions,
   possibly increased on right. Cardiac silhouette likely unchanged
   allowing for difference in lung volumves.
   Retrocardiac atelectasis psresists. Signs of fluid overload similar to
   [**1-28**].
   [**1-30**]: pending
   Microbiology: All blood cx NGTD
   [**1-25**] Urine cx NGTD
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s this AM in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.
   #. Fevers: Patient continues to have high-grade fevers despite
   treatment with broad-spectrum abx.  Cannot give Tylenol PO or PR.
   Toradol worked but has renal toxicity.  Only using cooling blanket at
   this point.  UTI VRE is daptomycin sensitive, so unlikely to be source
   - Culture once daily while spiking.
   - Give Demerol for rigors, using sparingly given low GFR.
   - Continue dapto/[**Last Name (un) 614**]/micafungin/acyclovir for antibiotic coverage.
   - Consider LP to find source.
   - Consider intubation to allow for further work-up (bronchoscopy, CT
   scan, LP, etc.)
   #. Altered mental status:
   Most consistent with delirium, though fevers are concerning for
   possible CNS infection.  Patient  is febrile and neutropenic, so
   encephalitis or meningitis could be contributing.   Her mental status
   is worsening.  CT head was normal, without evidence of bleed, despite
   her thrombocytopenia.  Her agitation drives her tachycardia, so we have
   been intermittently using morphine, ativan and haldol to calm her.  She
   is nearly non-verbal, making it difficult to assess her pain.
   - Would like to do LP, but patient would likely need intubation for
   procedure.  Will discuss with oncology and family.
   - Will keep antibiotics at doses for CNS penetration.
   - PRN haldol for now, if working well/using regularly, can switch to
   standing dose.
   - Consider MRI if ongoing concern for infectious etiologies of AMS
   - Continue PRN ativan and morphine.
   - Daptomycin unlikely cause of delirium.
   - platelets trending down, give 1 unit to avoid head bleed.
   #. Tachycardia:
   Today appears to be in Afib with RVR. We thought her tachycardia was
   exacerbated by volume overload, though today she appears dry and
   remains tachy with a cloudy CXR.  Complicating her tachycardia is
   continued fever.  Will continue dilt drip with PRN lopressor and also
   load with digoxin.  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation, though
   platelet count of 12 precludes that currently.
   - Continue diltiazem drip w/ PRN lopressor when not controlled.
   - Start dig load.
   - Control fever as much as possible
   - Hold off on diuresis for today given hyponatremia and rising
   creatinine.  Do not give back fluid given tenuous respiratory status.
   - Daily weights
   - Appreciate cardiology input
   #. Hypoxia:
   Patient with new oxygen requirement in the last few days. Currently
   mid-90s on 3L NC. Pulmonary exam with upper airway coarse sounds and
   bilbasilar crackles. Possible that hypoxia is all due to pulmonary
   edema from poor LV filling in setting of LVH and tachycardia.  Diuresis
   has been limited by hyponatremia and rising Cr.  This hypothesis
   supported by worsening hypoxia when tachy to 150s.
   - Control HR and BP as above
   - Diuresis as creatinine allows.
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +8.  Will likely nadir until days [**12-19**].
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:
   Patient's ANC now 0. Patient persistently febrile on micafungin,
   meropenem, daptomycin and acyclovir.
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 6), cefepime/meropenem (currently
   day 8+1), daptomycin (currently day 5), acyclovir (currently day 10)
   #. Hypertension:
   Normal ventricular function on Echo. Patient has not had hypotension
   during her current course.
   - Additional diuresis as above
   - Consider afterload reduction with IV hydralazine once HR controlled
   ICU Care
   Nutrition: Regular low bacteria diet as allowed by her mucositis, TPN
   w/ Lipids - [**2112-1-28**] 10:49 AM 65 mL/hour
   Glycemic Control: [**Hospital1 7**] FSBS with HISS
   Lines: Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   - DVT ppx with pneumoboots only b/c of thrombocytopenia.
   - Bowel regimen will be added as needed
   - Pain management with PRN morphine IV
   Communication:  [**Name (NI) **] husband, [**Name (NI) 478**] [**Name (NI) 12343**], [**Telephone/Fax (1) 12344**] or
   [**Telephone/Fax (1) 12345**]
   Code status: Full code
   Disposition: ICU for now while requiring diltiazem drip for control of
   atrial fib/flutter

2112-01-30 14:16:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo female with MM s/p auto-SCT [**1-22**] complicated by febrile
   neutropneia, UTI, AMS, mucositis, rapid afib
   Transferred to [**Hospital Unit Name **] with persistent afib/worsneing hypoxia
   24 Hour Events:
 BLOOD CULTURED - At [**2112-1-30**] 12:19 AM
 FEVER - 103.6
F - [**2112-1-30**] 01:00 AM
   *Continued fevers
   *Ativan/haldol/morphine given with improved agitation, though pt later
   more somnolent
   *concerns for worsening pulmnary edema/hypoxia- lasix given with
   unclear benefit, Foley inserted to track I's and O's
   *Cefipime added per ID recs
   *recs for increasing Acylovir to improve CNS penetration- held off due
   to renal failure
                       History obtained from [**Hospital 15**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-28**] 04:30 PM
   Cefipime - [**2112-1-29**] 10:00 AM
   Acyclovir - [**2112-1-29**] 07:53 PM
   Micafungin - [**2112-1-29**] 08:41 PM
   Meropenem - [**2112-1-30**] 08:36 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-1-29**] 06:52 PM
   Lorazepam (Ativan) - [**2112-1-29**] 07:12 PM
   Hydromorphone (Dilaudid) - [**2112-1-29**] 10:41 PM
   Meperidine (Demerol) - [**2112-1-30**] 03:55 AM
   Haloperidol (Haldol) - [**2112-1-30**] 06:08 AM
   Midazolam (Versed) - [**2112-1-30**] 01:44 PM
   Fentanyl - [**2112-1-30**] 01:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-30**] 02:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.4
C (101.2
   HR: 102 (85 - 141) bpm
   BP: 133/49(67) {95/40(56) - 160/96(111)} mmHg
   RR: 20 (16 - 46) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.8 kg (admission): 65.5 kg
           Total In:
                                                                  1,010 mL
                                                                    718 mL
   PO:
           TF:
   IVF:
                                                                  1,010 mL
                                                                    515 mL
   Blood products:
   203 mL
   Total out:
                                                                    990 mL
                                                                    338 mL
   Urine:
                                                                    990 mL
                                                                    338 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.48/30/87.[**Numeric Identifier 181**]/23/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: rigors, ill appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, dry oral mucosa, severe
   mucositis
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardic,
   irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse Bs bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, Moan with
   attempts to position pt
   [**Name (NI) 582**] / Radiology
   10.6 g/dL
   55 K/uL
   166 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   36 mg/dL
   98 mEq/L
   129 mEq/L
   30.8 %
   0.1 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
                            [**2112-1-29**]  05:01 PM
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
                            [**2112-1-30**]  01:19 PM
   WBC
   0.1
   0.1
   0.1
   Hct
   21.6
   31.2
   30.8
   Plt
   49
   30
   15
   55
   Cr
   1.4
   1.4
   1.7
   TCO2
   23
   Glucose
   124
   120
   166
   Other [**Year (4 digits) **]: PT / PTT / INR:14.4/33.9/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   75 yo female with multiple myleoma s/p auto-SCT complicated by febrile
   neutropenia
   Over past day, remained febrile with hypoxia/resp distress, poor MS
   concerns for sepsis/infection not covered with current abx, but
   marginal resp status has made it difficult to perform more thorough
   evaluation
   1. Acute respiratory failure
   contributors: pulm edema/pleural effusion aggravated by rapid afib/loss
   of atrial kick (has LVH/diastolic dysfunction) and sepsis
   given worsening renal function and suspicion that pt intravascularly
   dry will hold off on further diuresis
   *Intubate
   *Rate control of afib which may minimize further aggravation of
   pulmonary edema
   2. Neutropneic fever
   On acyclovir/dapto/cefipime
   *Will discuss with ID whether additional antifungal or listeria tx
   indicated
   *Bronch/BAL after intubation
   *Probable CT torso/?LP
   3. AMS: [**Month (only) 51**] represent delirium, pain +sepsis
   *head CT after intubation to r/o bleed
   *Probable LP (with platelets infusing) assuming head CT negative
   4. Afib: on dilt gtt, prn metoprolol for rate control and will add
   digoxin
   5. MM: s/p auto-SCT with persistent pancytopenia. Continue to transfuse
   prn, and wait for counts to recover
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2112-01-31 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-1-30**] 12:31 PM
 INVASIVE VENTILATION - START [**2112-1-30**] 12:46 PM
 BRONCHOSCOPY - At [**2112-1-30**] 01:35 PM
 MAGNETIC RESONANCE IMAGING - At [**2112-1-30**] 07:03 PM
 STOOL CULTURE - At [**2112-1-31**] 04:33 AM
 FEVER - 102.6
F - [**2112-1-30**] 08:00 AM
   --Patient was intubated today for increasing agitation, altered mental
   status, discomfort, and need to do tests (MRI, CT, LP)
   --Patient continues to be febrile with no clear source of infection.
   ID came by and asked for a whole slew of labs (especially for CSF
   fluid, if we eventually do LP) and added abx including azithro,
   primaquin and clinda.  Did MRI head and CT abdomen and pelvis.  Again,
   we're still unsure of where this infection is coming from.
   -Bronch/BAL performed
   --LP was deferred until plts come up (> 50K per BMT)
   --Started dig for afib with RVR
   --Patient remains neutropenic, but counts are expected to rise in the
   next few days.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Cefipime - [**2112-1-29**] 10:00 AM
   Azithromycin - [**2112-1-30**] 05:15 PM
   Daptomycin - [**2112-1-30**] 05:27 PM
   Acyclovir - [**2112-1-30**] 08:03 PM
   Micafungin - [**2112-1-30**] 09:04 PM
   Meropenem - [**2112-1-30**] 11:01 PM
   Clindamycin - [**2112-1-31**] 03:07 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2112-1-31**] 04:00 AM
   Midazolam (Versed) - [**2112-1-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-31**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.5
C (99.5
   HR: 108 (92 - 141) bpm
   BP: 111/54(67) {92/40(52) - 152/76(88)} mmHg
   RR: 14 (13 - 46) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70.2 kg (admission): 65.5 kg
           Total In:
                                                                  2,302 mL
                                                                    475 mL
   PO:
           TF:
   IVF:
                                                                  1,139 mL
                                                                    143 mL
   Blood products:
                                                                    203 mL
                                                                    292 mL
   Total out:
                                                                    595 mL
                                                                    195 mL
   Urine:
                                                                    595 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 8 L/min
   Physical Examination
   Gen: Intubated, sedated, opens eyes but does not track, not following
   commands
   HEENT: ET tube in place, NCAT, neck supple
   CV: tachycardic, no murmurs appreciated
   Pulm: coarse breath sounds but otherwise clear anteriorly
   Abd: soft, distended, no rebound or guarding, +BS
   Extrem: stable 1+ edema in all extremeitis, 2+ pulses throughout
   Labs / Radiology
   46 K/uL
   9.2 g/dL
   87 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   50 mg/dL
   107 mEq/L
   139 mEq/L
   26.7 %
   0.2 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
                            [**2112-1-29**]  05:01 PM
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
                            [**2112-1-30**]  01:19 PM
                            [**2112-1-30**]  03:30 PM
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
   WBC
   0.1
   0.1
   0.1
   0.2
   Hct
   21.6
   31.2
   30.8
   26.7
   Plt
   49
   30
   15
   55
   25
   46
   Cr
   1.4
   1.4
   1.7
   1.9
   2.1
   TCO2
   23
   Glucose
   124
   120
   166
   146
   87
   Other labs: PT / PTT / INR:14.7/36.1/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:20.0 %, Band:0.0 %, Lymph:36.0 %, Mono:44.0 %,
   Eos:0.0 %, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Micro:
   [**1-23**]: Urine Cx Enterococcus ([**First Name9 (NamePattern2) 8023**] [**Last Name (un) 270**])
   [**1-27**], [**1-28**], [**1-29**], [**1-30**], [**1-31**] Blood Cx NGTD
   [**1-30**] Crypto Ag neg
   [**1-30**] BAL gram stain neg, Cx pend
   [**1-20**] Legionella Urine Ag neg
   [**1-30**] Urine Cx pend
   B Glucan and Aspergillus pend
   Imaging: [**1-30**] CT Chest/Abd/Pel:
    1. Moderate right, and small left layering pleural effusions,
   increased since the prior chest CT.
   2. Relatively symmetric bilateral airspace opacities, perihilar
   predominant, which may reflect infection or pulmonary edema, worse
   since the prior study. Interlobular septal thickening at the lung
   apices indicates pulmonary edema.
   3. Small pericardial effusion.
   4. Nonspecific mesenteric and perinephric stranding. While this could
   relate to an infectious process such as pyelonephritis, or
   pancreatitis, this may be related to a generalized anasarca. Clinical
   correltion with urine analysis and pancreatic enzymes is recommended.
   5. Unchanged bony findings.
   .
   MRI Head pend
   CXR this AM
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated to facilitate procedures given continued
   agitation in setting of fevers and likely infection.
   #. Fevers: Patient continues to have high-grade fevers despite
   treatment with broad-spectrum abx.  UTI VRE is daptomycin sensitive, so
   unlikely to be source
   - Culture once daily while spiking.
   - Tylenol PRN
   - Give Demerol for rigors, using sparingly given low GFR.
   - Continue [**Month/Year (2) 8023**]/[**Last Name (un) 614**]/micafungin/acyclovir for antibiotic coverage.
   Now also with azithromycin, primaquin and clinda per ID
   - Consider LP today if able to get platelets > 50K.
   .
   #. Hypoxia/Respiratory failure: Patient with new oxygen requirement in
   the last few days. Pulmonary exam with upper airway coarse sounds and
   bilbasilar crackles.  Patient now intubated with FiO2 60%.
   - wean FiO2; will get ABG now and use VBGs along with peripheral SaO2
   to wean vent settings
   - Control HR and BP as above
   - Diuresis on hold for now given worsening renal failure.
   #. Altered mental status:
   Most consistent with delirium, though fevers are concerning for
   possible CNS infection.  Patient  is febrile and neutropenic, so
   encephalitis or meningitis could be contributing.   Her mental status
   is worsening.  CT head was normal, without evidence of bleed, despite
   her thrombocytopenia.  Her agitation drives her tachycardia, so we have
   been intermittently using morphine, ativan and haldol to calm her.  She
   is nearly non-verbal, making it difficult to assess her pain.
   - LP today as above
   - Will keep antibiotics at doses for CNS penetration.
   - f/u MRI results
   - Daptomycin unlikely cause of delirium.
    .
   # Acute Renal Failure: Most likely pre-renal/ATN from sepsis.
   - will follow I/O and CVP
   - prn fluid boluses for low UOP
   - urine lytes
   - renally dose meds
   - consider renal u/s if persists
   .
   #. Tachycardia:  Afib with RVR. We thought her tachycardia was
   exacerbated by volume overload, as well as fever and agitation.  Dig
   loaded yesterday.  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation, though
   platelet count of 12 precludes that currently.
   - Continue Digoxin.
   - Add diltiazem PO and titrate up as needed for better rate control
   - Control fever as much as possible
   - Daily weights
   - Appreciate cardiology input
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +9.  Will likely nadir until days [**12-19**].
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:  Patient continues to be neutropenic and
   persistently febrile on micafungin, meropenem, daptomycin and
   acyclovir, with new abx added yesterday.
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 7), cefepime/meropenem (currently
   day 10), daptomycin (currently day 6), acyclovir (currently day 11)
   #. Hypertension:
   Normal ventricular function on Echo. Patient has not had hypotension
   during her current course.
   - Hold on diuresis for now as above
   - Consider afterload reduction with IV hydralazine once HR controlled
   ICU Care
   Nutrition: TPN on hold for now, will request tube feed recs
   Glycemic Control:  insulin SS
   Lines:
   Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   DVT: pneumoboots only
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: husband, [**Name (NI) 478**] [**Name (NI) 12343**], [**Telephone/Fax (1) 12344**] or
   [**Telephone/Fax (1) 12345**]
   Code status: Full code
   Disposition: ICU

2112-01-31 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo female with MM s/p auto SCT [**1-22**] with febrile neutropenia, AMS,
   mucositis, rapid afib
   24 Hour Events:
 EKG - At [**2112-1-30**] 12:31 PM
 INVASIVE VENTILATION - START [**2112-1-30**] 12:46 PM
 BRONCHOSCOPY - At [**2112-1-30**] 01:35 PM
 MAGNETIC RESONANCE IMAGING - At [**2112-1-30**] 07:03 PM
 STOOL CULTURE - At [**2112-1-31**] 04:33 AM
 FEVER - 102.6
F - [**2112-1-30**] 08:00 AM
   *Intubated electively (AMS/procedures/resp)
   *CT: moderate R and L pleural effusions, bil a/s opacities potentially
   edema, non specific mesenteric stranding
   *MRI head pending
   *Bronch/BAL
   *Abx: Azithro/primaquine
   *Did not get LP
   *Dig loaded for afib
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Cefipime - [**2112-1-29**] 10:00 AM
   Azithromycin - [**2112-1-30**] 05:15 PM
   Daptomycin - [**2112-1-30**] 05:27 PM
   Acyclovir - [**2112-1-30**] 08:03 PM
   Micafungin - [**2112-1-30**] 09:04 PM
   Meropenem - [**2112-1-30**] 11:01 PM
   Clindamycin - [**2112-1-31**] 03:07 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-1-31**] 04:00 AM
   Fentanyl - [**2112-1-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-31**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 118 (92 - 119) bpm
   BP: 135/54(72) {92/40(52) - 152/67(83)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70.2 kg (admission): 65.5 kg
           Total In:
                                                                  2,302 mL
                                                                    705 mL
   PO:
           TF:
   IVF:
                                                                  1,139 mL
                                                                    179 mL
   Blood products:
                                                                    203 mL
                                                                    486 mL
   Total out:
                                                                    595 mL
                                                                    275 mL
   Urine:
                                                                    595 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 8.3 L/min
   Physical Examination
   Cardiovascular: tachycardic, irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eye, sometimes tracks
   Labs / Radiology
   9.2 g/dL
   46 K/uL
   87 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   50 mg/dL
   107 mEq/L
   139 mEq/L
   26.7 %
   0.2 K/uL
        [image002.jpg]
                            [**2112-1-28**]  02:31 PM
                            [**2112-1-29**]  03:37 AM
                            [**2112-1-29**]  05:01 PM
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
                            [**2112-1-30**]  01:19 PM
                            [**2112-1-30**]  03:30 PM
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
   WBC
   0.1
   0.1
   0.1
   0.2
   Hct
   21.6
   31.2
   30.8
   26.7
   Plt
   49
   30
   15
   55
   25
   46
   Cr
   1.4
   1.4
   1.7
   1.9
   2.1
   TCO2
   23
   Glucose
   124
   120
   166
   146
   87
   Other labs: PT / PTT / INR:14.7/36.1/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:20.0 %, Band:0.0 %, Lymph:36.0 %, Mono:44.0 %,
   Eos:0.0 %, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Imaging: MRI: multiple small areas of T2 signalling both hemispheres
   and left temporal cortex  could represent small vs infarcts vs
   opportunistic infections
   Microbiology: [**1-23**] VRE UTI
   Bd Cx pending
   Bronch GS negative, cx's pending
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   1. Acute resp failure
   2. Afib
   3. Acute renal failure
   4. AMS
   75 yo female with MM s/p auto-SCT c/b febrile neutropenia, rapid afib,
   AMS
   1. Febrile neutropenia: Concerning for opportunistic infection, no
   organisms recovered yet but covered extensively with  [**Last Name (LF) 8023**], [**First Name3 (LF) **],
   micofungin, azithromycin, primaquine, clindamycin, cefipime. Will f/u
   bronch cultures, blood and urine cultures. Plan LP today.
   2. Acute respiratory failure: oxygenation adequate on current settings.
   Will obtain ABG, wean FiO2 as tolerated.
   3. AMS: difficult to gauge currently as pt sedated with
   versed/fentanyl. Plan LP today to r/o CNS infection. Once other acute
   issues resolving, will start lightening sedation to assess underlying
   MS
   4. Rapid afib: remains in afib, but HR control better since
   intubation/sedation- now off dilt drip. On digoxin.
   5. Acute renal failure: worsening renal function- prob. pre-renal/ATN
   from sepsis. Track I's and O's, check urine lytes, U/A. [**Month (only) 51**] need fluids
   if CVP suggests more volume needed. consider renal US if persists.
   6. MM: remains pancytopenic, counts expected to recover in the next few
   days. Continue to follow CBC.
   7. Nutrition: will begin enteral feeds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2112-02-01 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2112-1-31**] 07:38 PM
 FEVER - 101.2
F - [**2112-1-31**] 12:00 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Cefipime - [**2112-1-29**] 10:00 AM
   Daptomycin - [**2112-1-31**] 03:26 PM
   Azithromycin - [**2112-1-31**] 04:00 PM
   Acyclovir - [**2112-1-31**] 05:45 PM
   Micafungin - [**2112-1-31**] 08:14 PM
   Meropenem - [**2112-1-31**] 10:30 PM
   Clindamycin - [**2112-2-1**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-1**] 06:15 AM
   Fentanyl - [**2112-2-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-1**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.4
C (97.5
   HR: 99 (82 - 133) bpm
   BP: 127/51(71) {99/40(55) - 138/76(83)} mmHg
   RR: 13 (0 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.6 kg (admission): 65.5 kg
    CVP: 8 (8 - 11)mmHg
   Total In:
                                                                  1,872 mL
                                                                    462 mL
   PO:
   TF:
                                                                     20 mL
                                                                     89 mL
   IVF:
                                                                  1,090 mL
                                                                    193 mL
   Blood products:
                                                                    682 mL
   Total out:
                                                                    662 mL
                                                                    220 mL
   Urine:
                                                                    662 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,210 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: [**Year (4 digits) 11083**]/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/37/160/23/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Labs / Radiology
   82 K/uL
   8.4 g/dL
   101 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   51 mg/dL
   110 mEq/L
   143 mEq/L
   25.0 %
   1.3 K/uL
        [image002.jpg]
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
                            [**2112-1-30**]  01:19 PM
                            [**2112-1-30**]  03:30 PM
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
   WBC
   0.1
   0.2
   1.3
   Hct
   30.8
   26.7
   25.0
   Plt
   15
   55
   25
   46
   67
   109
   82
   Cr
   1.7
   1.9
   2.1
   2.2
   TCO2
   23
   25
   Glucose
   166
   146
   87
   101
   Other labs: PT / PTT / INR:14.4/33.7/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:37.0 %, Band:10.0 %, Lymph:23.0 %, Mono:25.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   .
   MRI:
   Multiple small areas of elevated T2 signal within the white
   matter of both cerebral hemispheres and left temporal cortex. In a
   patient of
   this age, these findings could represent prior small vessel infarcts.
   However,
   in view of the history of immunocompromised patient status, an
   underlying
   opportunistic infectious condition cannot be excluded. If a gadolinium-
   enhanced examination is undertaken (provided there are no
   contraindications to
   its performance) the absence of contrast enhancement would favor
   infarction
   over infection. However, this distinction cannot be absolutely rendered
   on
   the basis of contrast enhancement characteristics. See above report re:
   sinus findings.
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated to facilitate procedures given continued
   agitation in setting of fevers and likely infection.
   #. Fevers: Patient continues to have high-grade fevers despite
   treatment with broad-spectrum abx.  UTI VRE is daptomycin sensitive, so
   unlikely to be source. CSF does not show clear evidence of infection.
   HSV PCR pending. BAL also unrevealing.
   - Culture once daily while spiking.
   - Tylenol PRN
   - Give Demerol for rigors, using sparingly given low GFR.
   - Continue dapto/[**Last Name (un) 614**]/micafungin/acyclovir for antibiotic coverage.
   Now also with azithromycin, primaquin and clinda per ID
   .
   #. Hypoxia/Respiratory failure: Patient with new oxygen requirement in
   the last few days. Pulmonary exam with upper airway coarse sounds and
   bilbasilar crackles.  Patient now intubated with FiO2 60%. CT shows
   possible mutlifocal infection, but BAL negative for bacterial cx, viral
   panel, legionella, nocardia, AFB smear, fungi, PCP. [**Name10 (NameIs) 11083**] pending.
   - wean FiO2
   - Control HR and BP as above
   - Diuresis on hold for now given worsening renal failure.
   #. Altered mental status:
   Most consistent with delirium, though fevers are concerning for
   possible CNS infection.  Patient  is febrile and neutropenic, so
   encephalitis or meningitis could be contributing.   Her mental status
   is worsening.  CT head was normal, without evidence of bleed, despite
   her thrombocytopenia.  Her agitation drives her tachycardia, so we have
   been intermittently using morphine, ativan and haldol to calm her.  She
   is nearly non-verbal, making it difficult to assess her pain. MRI
   showed small bihemispheric lesions more likely small infarcts but
   cannot rule out infection, as well as sinus disease.
   - LP unrevealing with normal protein and glucose, 0 wbc, HSV PCR
   pending.
   - Will keep antibiotics at doses for CNS penetration.
   - consider further evaluation of sinuses
   .
   # Acute Renal Failure: Appears pre-renal based on urine electrolytes.
   CVP 8, urine output borderline low.
   - will follow I/O and CVP
   - bolus 500cc NS
   - renally dose meds
   .
   #. Tachycardia:  Afib with RVR, exacerbated fever and agitation.
   CHADS2 score is 2 (age and hypertension), so she will eventually
   require consideration for anticoagulation.
   - Continue Digoxin.
   - increase diltiazem PO to 90 QID as tolerated by BP
   - Control fever as much as possible
   - Daily weights
   - Appreciate cardiology input
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +10.  Counts beginning to increase today.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:  Patient continues to be neutropenic and
   persistently febrile on micafungin, meropenem, daptomycin and
   acyclovir, with new abx added yesterday.
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 8), cefepime/meropenem (currently
   day 11), daptomycin (currently day 7), acyclovir (currently day 12)
   #. Hypertension:
   Normal ventricular function on Echo. Patient has not had hypotension
   during her current course.
   - increase diltiazem as above
   - Consider afterload reduction with IV hydralazine once HR controlled
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2112-1-28**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-01 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   Tachycardia--Atrial Fibrillation
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2112-1-31**] 07:38 PM--no WBC's seen
 FEVER - 101.2
F - [**2112-1-31**] 12:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-1-31**] 03:26 PM
   Azithromycin - [**2112-1-31**] 04:00 PM
   Acyclovir - [**2112-1-31**] 05:45 PM
   Micafungin - [**2112-1-31**] 08:14 PM
   Clindamycin - [**2112-2-1**] 02:00 AM
   Meropenem - [**2112-2-1**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-1**] 06:15 AM
   Fentanyl - [**2112-2-1**] 06:15 AM
   Pantoprazole (Protonix) - [**2112-2-1**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2112-2-1**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.5
C (103.1
   HR: 131 (82 - 133) bpm
   BP: 155/59(79) {99/40(55) - 155/76(83)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.6 kg (admission): 65.5 kg
   CVP: 9 (8 - 11)mmHg
   Total In:
                                                                  1,872 mL
                                                                    794 mL
   PO:
   TF:
                                                                     20 mL
                                                                    180 mL
   IVF:
                                                                  1,090 mL
                                                                    394 mL
   Blood products:
                                                                    682 mL
   Total out:
                                                                    662 mL
                                                                    705 mL
   Urine:
                                                                    662 mL
                                                                    355 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  1,210 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 419 (419 - 451) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/37/160/23/0
   Ve: 13 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   82 K/uL
   101 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   51 mg/dL
   110 mEq/L
   143 mEq/L
   25.0 %
   1.3 K/uL
        [image002.jpg]
                            [**2112-1-29**]  05:13 PM
                            [**2112-1-30**]  03:27 AM
                            [**2112-1-30**]  01:19 PM
                            [**2112-1-30**]  03:30 PM
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
   WBC
   0.1
   0.2
   1.3
   Hct
   30.8
   26.7
   25.0
   Plt
   15
   55
   25
   46
   67
   109
   82
   Cr
   1.7
   1.9
   2.1
   2.2
   TCO2
   23
   25
   Glucose
   166
   146
   87
   101
   Other labs: PT / PTT / INR:14.4/33.7/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:37.0 %, Band:10.0 %, Lymph:23.0 %, Mono:25.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: AG-10
   Imaging: MRI-small areas of increased T2 intensity consistent with old
   infarction but without contrast difficult to assess with confidence.
   Some sinus disease
   CXR-ETT and OGt and CVL in good position, no change in consolidations
   and effusions.
   Assessment and Plan
   75 yo female with history of hypertension and multiple myeloma admitted
   to the ICU with A-fib with rapid ventricular response following initial
   admission with transplant for multiple myeloma.  This has also been
   complicated by severely altered mental status.  Of note, she has had
   persistent fever through to today and altered mental status which
   persists.  The source of infection is not clear but persistent fevers
   are seen.
   1)       RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-She has had
   worsening multi-focal opacities and with bilteral effusions noted.
   Bronch and BAL without signfiicant organisms found despite extensive
   pannel with CMV pending now.  Initial intubation was in the setting of
   severe alteration of mental status and persistent agitation limiting
   capacity to conduct care.  Now patient limtied by tachpnea and
   tachycardia with PSV trials today.
                          -will move to PSV today
                          -Will check ABG with ventilator wean to guide
   need for mecahnical ventilation
   2)Tachycardia/Atrial Fibrillation-
   -Digoxin
   -Diltiazem
   -Will continue to work to control heart rate
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)-LP without any organisms or
   WBC's seen, HSV PCR pending
   -Will have to continue to treat symptomatically but desire wean of
   sedation at this time
   -Will follow up with MRI final [**Location (un) **] and follow LP results to
   conclusion
   -Continue with acyclovir
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)-
   -GCSF
   3)Fever-We have had extensive evaluations without clear sources beyond
   what is perhaps most likely related to pulmonary pathology.  With
   diffuse and broad spectrum antibiotics we have had to cover broad areas
   of possibility.  C. Diff, pancreatitis, acalculous cholecysticis are
   all possible.  Sinusitis
   Possible Fungal
   -Micafungin
   Possible HSV
   -Acyclovir
   PNEUMONIA-
   -Meropenem/Azithromycin
   VRE Urinary Tract Infection
   -Daptomycin
   PCP-
   [**Name Initial (NameIs) 12391**]/Clinda to D/C today
   Urinary Tract Infection-
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   CVL - [**2112-1-28**] 10:50 AM
will look to change today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2112-02-02 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per cards, D/Ced dig and started metoprolol, increased dilt to 90 qid
   - PSV x2 --> tachypnic to 50s, tachycardic
   - received 1L IVF with improvement in Cr
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Micafungin - [**2112-1-31**] 08:14 PM
   Clindamycin - [**2112-2-1**] 11:00 AM
   Azithromycin - [**2112-2-1**] 04:00 PM
   Acyclovir - [**2112-2-1**] 06:55 PM
   Daptomycin - [**2112-2-1**] 08:23 PM
   Meropenem - [**2112-2-1**] 10:10 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-1**] 07:56 AM
   Midazolam (Versed) - [**2112-2-2**] 04:24 AM
   Fentanyl - [**2112-2-2**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-2**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.9
C (100.3
   HR: 92 (78 - 132) bpm
   BP: 95/44(57) {95/38(54) - 165/88(97)} mmHg
   RR: 14 (0 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 65.5 kg
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  3,259 mL
                                                                    729 mL
   PO:
   TF:
                                                                    689 mL
                                                                    391 mL
   IVF:
                                                                  2,230 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,103 mL
                                                                    340 mL
   Urine:
                                                                    753 mL
                                                                    340 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  2,156 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: [**Year (4 digits) 11083**]/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (373 - 531) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.45/32/86/21/0
   Ve: 14.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   9.3 g/dL
   120 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   43 mg/dL
   112 mEq/L
   144 mEq/L
   27.7 %
   7.1 K/uL
        [image002.jpg]
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
   WBC
   0.2
   1.3
   7.1
   Hct
   26.7
   25.0
   27.7
   Plt
   25
   46
   67
   109
   82
   76
   66
   Cr
   2.1
   2.2
   1.9
   1.7
   TCO2
   25
   23
   Glucose
   87
   101
   127
   120
   Other labs: PT / PTT / INR:13.5/30.4/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:79.0 %, Band:5.0 %, Lymph:1.0 %, Mono:10.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**2112-1-31**] 7:26 pm CSF;SPINAL FLUID      Source: LP.
      GRAM STAIN (Final [**2112-1-31**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):
      ACID FAST CULTURE (Preliminary):
         The sensitivity of an AFB smear on CSF is very low..
         If present, AFB may take 3-8 weeks to grow..
   Blood culture, urine culture, wound culture pending.
   [**2112-1-30**] 1:38 pm BRONCHOALVEOLAR LAVAGE      BRONCH LAVAGE.
      GRAM STAIN (Final [**2112-2-1**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2112-2-1**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2112-2-1**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED.
      Respiratory Viral Antigen Screen (Final [**2112-1-30**]):
         Negative for Respiratory Viral Antigen.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2112-1-31**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient continues to have high-grade fevers despite
   treatment with broad-spectrum abx.  UTI VRE is daptomycin sensitive, so
   unlikely to be source, on day [**9-18**] of course. CSF does not show
   evidence of infection. HSV PCR pending. BAL also unrevealing, however
   chest CT shows multiple concering areas in chest. Patient also has SC
   line (uncle[**Name (NI) 2037**] what date this was placed). No NGT in place, so sinus
   changes on MRI less likely to be acute.
   - attempt to place PIV and D/C SC line
   - Culture once daily while spiking.
   - Tylenol PRN
   - Give Demerol for rigors, using sparingly given low GFR.
   - Continue azithromycin/dapto/[**Last Name (un) 614**]/micafungin/acyclovir for PNA and UTI
   coverage
   - D/C clinda and primaquine since ruled out for toxo and PCP
   .
   #. Hypoxia/Respiratory failure:  Patient now intubated with FiO2 40%,
   decreased from 60%. PSV trial this AM but patient became tachypnic (was
   spiking fever at the time). CT shows possible mutlifocal infection, but
   BAL negative for bacterial cx, viral panel, legionella, nocardia, AFB
   smear, fungi, PCP. [**Name10 (NameIs) 11083**] pending.
   - repeat PSV trial this PM when afebrile
   - if tachypnic, obtain ABG
   - Control HR and BP as above
   #. Altered mental status:
   Most consistent with delirium in setting of infection. MRI showed small
   bihemispheric lesions more likely small infarcts but cannot rule out
   infection, as well as sinus disease.
   - LP unrevealing with normal protein and glucose, 0 wbc, HSV PCR
   pending.
   - Will keep antibiotics at doses for CNS penetration.
   .
   # Acute Renal Failure: Appears pre-renal based on urine electrolytes.
   CVP 5-8, urine output borderline low.
   - will follow I/O and CVP
   - bolus 500cc NS
   - PM lytes
   - renally dose meds
   .
   #. Tachycardia:  Afib with RVR, exacerbated fever and agitation.
   CHADS2 score is 2 (age and hypertension), so she will eventually
   require consideration for anticoagulation.
   - Continue Digoxin.
   - increase diltiazem PO to 90 QID as tolerated by BP
   - Control fever as much as possible
   - Daily weights
   - Appreciate cardiology input
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +10.  Counts beginning to increase today.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   #. Febrile neutropenia:  ANC 600, and persistently febrile on
   micafungin, meropenem, daptomycin and acyclovir
   - Neutropenic precautions
   - Continue neupogen until ANC greater than 1000
   - Continue micafungin (currently day 8), cefepime/meropenem (currently
   day 11), daptomycin (currently day 7), acyclovir (currently day 12)
   #. Hypertension:
   Normal ventricular function on Echo. Patient has not had hypotension
   during her current course.
   - increase diltiazem as above
   - Consider afterload reduction with IV hydralazine once HR controlled
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines: SC line
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-02 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2112-2-1**] 08:15 PM
 FEVER - 103.1
F - [**2112-2-1**] 10:00 AM
   _Substantial rise in WBC count
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Micafungin - [**2112-1-31**] 08:14 PM
   Clindamycin - [**2112-2-1**] 11:00 AM
   Azithromycin - [**2112-2-1**] 04:00 PM
   Acyclovir - [**2112-2-1**] 06:55 PM
   Daptomycin - [**2112-2-1**] 08:23 PM
   Meropenem - [**2112-2-1**] 10:10 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-2**] 04:24 AM
   Fentanyl - [**2112-2-2**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2112-2-2**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 99 (78 - 132) bpm
   BP: 126/53(70) {95/38(54) - 165/88(97)} mmHg
   RR: 15 (0 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 65.5 kg
             Total In:
                                                                  3,259 mL
                                                                    819 mL
   PO:
             TF:
                                                                    689 mL
                                                                    433 mL
   IVF:
                                                                  2,230 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,103 mL
                                                                    450 mL
   Urine:
                                                                    753 mL
                                                                    450 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  2,156 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (373 - 531) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.45/32/86/21/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   66 K/uL
   120 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   43 mg/dL
   112 mEq/L
   144 mEq/L
   27.7 %
   7.1 K/uL
        [image002.jpg]
                            [**2112-1-31**]  01:51 AM
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
   WBC
   0.2
   1.3
   7.1
   Hct
   26.7
   25.0
   27.7
   Plt
   25
   46
   67
   109
   82
   76
   66
   Cr
   2.1
   2.2
   1.9
   1.7
   TCO2
   25
   23
   Glucose
   87
   101
   127
   120
   Other labs: PT / PTT / INR:13.5/30.4/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:79.0 %, Band:5.0 %, Lymph:1.0 %, Mono:10.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: AG-11
   Imaging: CXR-
   Microbiology: No new results
   Assessment and Plan
   75 yo female with Multiple Myeloma now s/p BMT and admitted with atrial
   fibrillation with rapid ventricular response now with persistent
   respiratory failure.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-She has reasonable
   tolerance of relatively minimal pressure support levels.  We have been
   able to continue support with 10-14/5 with adequate tolerance.  This
   morning with move to SBT patient with rapid evolution of rapid and
   shollow breaths with mild increase in heart rate associated.   This
   would suggest that although static compliance appears to be reasonable
   while supported we do see a rapid decline with move to more minimal
   levels of PEEP and pressure support.  This is all consistent with rapid
   centralization of fluid and pulmonary edema.
   -Patient with multifocal infiltrates
   -Continue with empiric antibiotics
   -Will attempt to maintain even to negative fluid balance
   -Continue with PSV
 ATRIAL FIBRILLATION (AFIB)
   -Dilt QID
   _Digoxin held
   -Lopressor started
 ALTERED MENTAL STATUS (NOT DELIRIUM)-
   -Will wean sedation as possible
   -Will follow up final LP results as avaialble
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)-
   GCSF
would D/C at this time and will discuss with BMT
   Fever--Persistent fevers without clear source--have had continued
   empiric coverage
   Micafungin
B-glucan and galactomanin level pending
   Acyclovir
Awaiting HSV PCR results prior to D/C
   Azithromycin
   Daptomycin-_VRE in urine being treated
   Meropenem
   -Continue to culture for fevers across time but will work to move to
   decrease in antibiotics as counts and cultures return
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2112-2-1**] 08:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2112-02-03 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.3
F - [**2112-2-2**] 07:00 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Clindamycin - [**2112-2-1**] 11:00 AM
   Meropenem - [**2112-2-2**] 09:45 AM
   Azithromycin - [**2112-2-2**] 03:31 PM
   Daptomycin - [**2112-2-2**] 05:00 PM
   Acyclovir - [**2112-2-2**] 06:00 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-3**] 05:20 AM
   Fentanyl - [**2112-2-3**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-3**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.7
C (98
   HR: 91 (81 - 122) bpm
   BP: 135/45(70) {113/44(61) - 174/70(105)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 65.5 kg
             Total In:
                                                                  1,971 mL
                                                                    356 mL
   PO:
             TF:
                                                                    495 mL
                                                                    142 mL
   IVF:
                                                                  1,126 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    370 mL
   Urine:
                                                                  1,030 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    941 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (312 - 512) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 5 L/min
   Physical Examination
   General: Intubated, sedated, responds to voice
   Chest: Harsh breath sounds, no focal findings
   Cardiac:  Irregularly, irregular
   Abdomen:  Soft, non-tender, non-distended
   Extremities: +Peripheral pulses
   Labs / Radiology
   58 K/uL
   10.3 g/dL
   101 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   33 mg/dL
   113 mEq/L
   146 mEq/L
   30.7 %
   15.8 K/uL
        [image002.jpg]
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
   WBC
   1.3
   7.1
   15.8
   Hct
   25.0
   27.7
   30.7
   Plt
   46
   67
   109
   82
   76
   66
   58
   Cr
   2.2
   1.9
   1.7
   1.3
   TCO2
   25
   23
   Glucose
   101
   127
   120
   101
   Other labs: PT / PTT / INR:13.9/29.5/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:1.0 %, Mono:8.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient continues to have high-grade fevers despite
   treatment with broad-spectrum abx.  Still unclear source for infection.
   Marked Leukocytosis today, although consistent with receiving Nupogen.
   Only positive result is UTI VRE, which is daptomycin sensitive; this is
   day [**10-19**] for daptomycin course. CSF does not show evidence of
   infection. Has only PIVs. C. dif neg. BAL also unrevealing, however
   chest CT shows multifocal infiltrates in chest, possibly [**3-9**] transplant
   associated pneumonitis.  Consider atypical mycoplasma which may take
   more time to grow on BAL samples. MRI also showed mutiple areas of
   small infarct vs. infection, but could not differentiate without
   contrast. Concern would be for septic emboli vs. primary intracranial
   infection, will repeat MRI today with gad.
   - MRI with gad
   - D/C acyclovir as HSV PCR neg
   - D/C migafungin as B-glucan/galactomannan neg
   - completed 5 d course of azithro today, will D/C
   - Continue dapto/[**Last Name (un) 614**] for PNA and UTI coverage
   -  Line holiday (just 3 peripherals)
   - Culture once daily while spiking
   - Tylenol PRN
   - Give Demerol for rigors
   .
   #. Hypoxic Respiratory failure:  Patient now intubated on CMV/ASSIT;
   failed PSV twice for unclear reasons.  Etiology of hypoxic status most
   likely from infectious source in lungs (multifocal infiltrates on CT,
   but BAL cultures negative so far) or transplant associated pneumonitis
   with large contribution from mental status. CXR shows pleural effusions
   c/w increased volume overload.
   - TBB even today
    - maintain on AC today since patient has large sedation requirements
   in setting of delirium
   .
   #. Altered mental status:
   Most consistent with delirium in setting of infection, now complicated
   by several days of high dose sedatives. Sedative requirement remains
   high, and patient becomes agitated when sedatives weaned.
   - Will obtain MRI as above.
   - start zyprexa 2.5-5mg TID PRN and attempt to decrease fentanyl/midaz
   - D/C lorazepam
   .
   # Acute Renal Failure: Pre-renal, creatinine trending down.
   - will follow I/O and CVP
   - renally dose meds
   .
   #. Tachycardia:  Afib with RVR, exacerbated by fever and agitation.
   CHADS2 score is 2 (age and hypertension), so she will eventually
   require consideration for anticoagulation.
   - uptitrate metoprolol to 37.5mg TID
   - cont diltiazem PO 90 QID
   - Control fever as much as possible
   - Daily weights
   - Appreciate cardiology input
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +12.  Now has Leukocytosis.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2112-02-03 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.3
F - [**2112-2-2**] 07:00 PM
   C. Diff--negative
   WBC has recovered to (supra) normal range
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Clindamycin - [**2112-2-1**] 11:00 AM
   Azithromycin - [**2112-2-2**] 03:31 PM
   Daptomycin - [**2112-2-2**] 05:00 PM
   Acyclovir - [**2112-2-2**] 06:00 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Meropenem - [**2112-2-3**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-3**] 09:45 AM
   Fentanyl - [**2112-2-3**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2112-2-3**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38
C (100.4
   HR: 116 (81 - 122) bpm
   BP: 181/69(92) {114/45(61) - 181/70(105)} mmHg
   RR: 16 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 65.5 kg
             Total In:
                                                                  1,971 mL
                                                                    765 mL
   PO:
             TF:
                                                                    495 mL
                                                                    279 mL
   IVF:
                                                                  1,126 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    530 mL
   Urine:
                                                                  1,030 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    941 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (312 - 512) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 9.6 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, mild agitation
   Labs / Radiology
   10.3 g/dL
   58 K/uL
   101 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   33 mg/dL
   113 mEq/L
   146 mEq/L
   30.7 %
   15.8 K/uL
        [image002.jpg]
                            [**2112-1-31**]  05:15 AM
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
   WBC
   1.3
   7.1
   15.8
   Hct
   25.0
   27.7
   30.7
   Plt
   46
   67
   109
   82
   76
   66
   58
   Cr
   2.2
   1.9
   1.7
   1.3
   TCO2
   25
   23
   Glucose
   101
   127
   120
   101
   Other labs: PT / PTT / INR:13.9/29.5/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:1.0 %, Mono:8.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR--Minimal change from [**1-31**] film
   Assessment and Plan
   75 yo female with multiple myeloma now s/p BMT and now with admission
   to the ICU with hypoxemic respiratory failure and persistent fevers.
   She has now had recovery of WBC count in the setting of BMT and would
   hope in this setting to move towards effective clearance of pulmonary
   pathogens if indeed present and driving persistent respiratory failure.
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
Patient intubated with
   hypoxemic respiratory failure.  She now has persistent pleural
   effusions, persistent pulmonary infiltrates and persistent fevers
   noted.  These are all conspiring to maintain patient in ventilator
   dependent state.
   -Will need to check NIF to evaluate for weakness
   -Will need to move to negative fluid balance as possible
   -Will move to wean PSV today
   -This will be unlikely to improve until mental status and infection
   improved.
 PULMONARY EDEMA-
   -[**Month (only) 51**] be volume overloaded or non-specific pneumonitis driving
   persistent infiltrate and edema
 ATRIAL FIBRILLATION (AFIB)-
   -Transient tachycardia overnight but quite well controlled with control
   of patient sedation levels
   -Fentanyl 100mg/Versed 2mg IV
   FEVER-
   -HSV negative and with counts return will continue acyclovir in the
   setting of persistent fevers
   -Will continue with other ABX and micafungin, although fungal studies
   have been negative to date
   -Specifically-Daptomycin for Urinary Tract Infection and Meropenem (500
   q8 hours)/Azithromycin coverage
   -CVL D/C
d 2 days ago
   -Will continue to discuss with ID for final decisions on antibiotics
   and treatment path
   -Will follow up with MRI given persistent obtundation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-3**] 04:49 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-1**] 08:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2112-02-04 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ABX: Per BMT attending, only d/c'd micafungin
   (actually we stopped azithro also, but I don't think BMT cared about
   that, as it was ID's idea).  ID wanted to stop mica, dapto, acyclovir
   and azithro but held off per BMT recs.  ID attending came by in PM and
   said we should definitely stop dapto and acyclovir tomorrow (that will
   be 10 days dapto for VRE urine and CSF was HSV neg)
   -standing zyprexa started and patient less agitated, with HR better
   (mostly in 80s). ECG checked and no increased QT.
   -did not get MRI head overnight.  should go early in AM
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Clindamycin - [**2112-2-1**] 11:00 AM
   Azithromycin - [**2112-2-2**] 03:31 PM
   Daptomycin - [**2112-2-2**] 05:00 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Meropenem - [**2112-2-4**] 02:13 AM
   Acyclovir - [**2112-2-4**] 05:46 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-3**] 09:45 AM
   Fentanyl - [**2112-2-3**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-4**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 84 (71 - 116) bpm
   BP: 129/51(68) {119/45(65) - 181/74(94)} mmHg
   RR: 14 (0 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,432 mL
                                                                    435 mL
   PO:
             TF:
                                                                    374 mL
   IVF:
                                                                    768 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    390 mL
   Urine:
                                                                  1,060 mL
                                                                    390 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                    232 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (390 - 480) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ///23/
   NIF: -44 cmH2O
   Ve: 7.3 L/min
   Physical Examination
   General: Intubated, sedated, responds to voice
   Chest: Harsh breath sounds, no focal findings
   Cardiac:  Irregularly, irregular
   Abdomen:  Soft, non-tender, non-distended
   Extremities: +Peripheral pulses
   Labs / Radiology
   52 K/uL
   9.0 g/dL
   96 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.4 mEq/L
   28 mg/dL
   114 mEq/L
   146 mEq/L
   26.8 %
   20.2 K/uL
        [image002.jpg]
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
   WBC
   1.3
   7.1
   15.8
   20.2
   Hct
   25.0
   27.7
   30.7
   26.8
   Plt
   67
   109
   82
   76
   66
   58
   52
   Cr
   2.2
   1.9
   1.7
   1.3
   1.1
   TCO2
   25
   23
   Glucose
   101
   127
   120
   101
   96
   Other labs: PT / PTT / INR:13.7/27.8/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:74.0 %, Band:3.0 %, Lymph:0.0 %, Mono:10.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Pt had only low grade fevers x 24 hours.  No clear source
   for infection. Leukocytosis consistent with receiving Nupogen. Only
   positive result is UTI VRE, which is daptomycin sensitive; this is day
   10/10-14d. LP and BAL unrevealing. Chest CT shows multifocal
   infiltrates in chest, possibly [**3-9**] transplant associated pneumonitis vs
   multifocal PNA.  Consider atypical mycoplasma which may take more time
   to grow on BAL samples. MRI also showed mutiple areas of small infarct
   vs. infection, but could not differentiate without contrast. Concern
   would be for septic emboli vs. primary intracranial infection, will
   repeat MRI today with gad.
   - MRI with gad
   - Continue dapto for UTI (last dose today per ID), acyclovir (should
   also end today per ID) and [**Last Name (un) 614**] for PNA
   -  Line holiday (just 3 peripherals)
   - Culture once daily while spiking
   - Tylenol PRN
   - Give Demerol for rigors
   .
   #. Hypoxic Respiratory failure:  Patient now intubated on CMV/ASSIT;
   failed PSV twice for unclear reasons.  Etiology of hypoxic status most
   likely from volume overload, as well as possible infectious source in
   lungs (multifocal infiltrates on CT, but BAL cultures negative so far)
   or transplant associated pneumonitis with large contribution from
   mental status. This AM, had rapid shallows respirations on PSV and was
   tachycardic and hypertensive,mental status remained poor after 2 hours
   off sedation.
   - TBB even today with Lasix prn
    - maintain on AC today since failed PSV trials
   - switch sedation to Presidex and plan extubation trial again tomorrow
   AM
   - NPO at MN
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation.
   - increase metoprolol to 50mg TID
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   #. Altered mental status:
   Most consistent with delirium in setting of infection, now complicated
   by several days of high dose sedatives. Sedative requirement remains
   high, and patient becomes agitated when sedatives weaned.
   - Will obtain MRI as above.
   - start zyprexa 2.5-5mg TID PRN and attempt to decrease fentanyl/midaz
   .
   # Acute Renal Failure: Cr back at baseline.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +13.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2112-02-04 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Micafungin and Azithromycin stopped yesterday
   Zyprexa started wtih less agitation noted transiently
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Clindamycin - [**2112-2-1**] 11:00 AM
   Azithromycin - [**2112-2-2**] 03:31 PM
   Daptomycin - [**2112-2-2**] 05:00 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Meropenem - [**2112-2-4**] 02:13 AM
   Acyclovir - [**2112-2-4**] 05:46 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-3**] 09:45 AM
   Fentanyl - [**2112-2-3**] 10:00 AM
   Pantoprazole (Protonix) - [**2112-2-4**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2112-2-4**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 90 (71 - 116) bpm
   BP: 167/60(82) {119/45(65) - 181/74(92)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,432 mL
                                                                    531 mL
   PO:
             TF:
                                                                    374 mL
   IVF:
                                                                    768 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    530 mL
   Urine:
                                                                  1,060 mL
                                                                    530 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                    232 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (390 - 480) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///23/
   NIF: -44 cmH2O
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   52 K/uL
   96 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.4 mEq/L
   28 mg/dL
   114 mEq/L
   146 mEq/L
   26.8 %
   20.2 K/uL
        [image002.jpg]
                            [**2112-1-31**]  10:45 AM
                            [**2112-1-31**]  02:53 PM
                            [**2112-1-31**]  06:40 PM
                            [**2112-2-1**]  03:49 AM
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
   WBC
   1.3
   7.1
   15.8
   20.2
   Hct
   25.0
   27.7
   30.7
   26.8
   Plt
   67
   109
   82
   76
   66
   58
   52
   Cr
   2.2
   1.9
   1.7
   1.3
   1.1
   TCO2
   25
   23
   Glucose
   101
   127
   120
   101
   96
   Other labs: PT / PTT / INR:13.7/27.8/1.2, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:74.0 %, Band:3.0 %, Lymph:0.0 %, Mono:10.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   75 yo female with multiple myeloma and now s/p BMT with course
   complicated by respiratory failure and persistent fevers
   1)Respiratory Failure-Patient with persistent requirement for continued
   ventilatory support and oxygenation support with patient demonstrating
   tacypnea and tachycardia and hypertension with SBT.  This has been
   persistent across time.  What is more favorable this morning is patient
   does maintain a favorable tidal volume with 350-400cc seen rather than
   rapid decline with move to minimal support levels in the past.  In
   regards to reversible sources we have seen a decrease in intensity of
   fever, we have seen some return of WBC counts but are still faced with
   agitation and limited compliance with patient in regards to care.
   -SBT today
   -Will continue to follow with ABG at 30 minutes of SBT this morning
   -Sedation held this morning for exam
   -Diuresis as possible today
   2)Fever
no focal source seen
   -Meropenem/Daptomycin/Acyclovir in place
   -Would likely discontinue Acyclovir as we have negative HSV
   -Will complete course of [**Last Name (un) **]/Dapto per ID recs
 ALTERED MENTAL STATUS (NOT DELIRIUM)-We have negative studies to date
   -Zyprexa
   -Sedation as needed
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   -F/U per BMT
   ICU Care
   Nutrition: Tube Feeds in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2112-2-1**] 08:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2112-02-05 07:50:00 Physician Resident Progress Note
Chief Complaint: Fevers, agitation s/p SCT
   24 Hour Events:
   - ID recommended decreasing acyclovir to ppx doses and D/Cing dapto,
   will D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 614**] if sputum cx neg from today
   - PSV trial --> pt tachycardic, tachypnic to 40s, hypertensive, with
   decreasing VT.
   - received 20 IV Lasix x 2 to optimize for extubation in AM
   - started precedex since pt seems oversedated despite being off midaz
   3hrs, but patient became bradycardic and apneic, and patient was
   switched bac to midaz
   - MRI with gad: no gross abnormalities
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Azithromycin - [**2112-2-2**] 03:31 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-5**] 02:11 AM
   Acyclovir - [**2112-2-5**] 07:09 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-4**] 08:35 AM
   Furosemide (Lasix) - [**2112-2-4**] 10:00 AM
   Midazolam (Versed) - [**2112-2-5**] 06:45 AM
   Fentanyl - [**2112-2-5**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-5**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37
C (98.6
   HR: 103 (62 - 123) bpm
   BP: 153/65(87) {106/40(55) - 191/79(99)} mmHg
   RR: 19 (9 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,508 mL
                                                                    432 mL
   PO:
             TF:
   IVF:
                                                                  1,048 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    790 mL
   Urine:
                                                                  2,520 mL
                                                                    290 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,012 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (166 - 563) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.49/30/74/24/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Micro:
[**2112-2-4**] 10:15 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2112-2-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   Labs / Radiology
   50 K/uL
   9.5 g/dL
   95 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   26 mg/dL
   110 mEq/L
   146 mEq/L
   27.4 %
   22.0 K/uL
        [image002.jpg]
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   Hct
   27.7
   30.7
   26.8
   27.4
   Plt
   76
   66
   58
   52
   50
   Cr
   1.9
   1.7
   1.3
   1.1
   1.1
   1.1
   TCO2
   23
   25
   23
   Glucose
   127
   120
   101
   96
   108
   95
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.2
   mg/dL, Mg++:1.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient continues to have low grade fevers, and is currently
   afebrile at 98.6.  No clear source for infection, only urine that is
   positive for VRE (sensitive to daptomycin, and day [**12-18**] for this
   course).  Chest CT with multifocal infiltrates in chest, possibly [**3-8**]
   to transplant associated penumotnitis vs. multifocal PNA.  Consider
   atypical mycoplasma which may take more time to grow on BAL samples.
   MRI also showed mutiple areas of small infarct vs. infection, but could
   not differentiate without contrast.  MRI yesterday with no gross
   abnormalities
   - D/c daptomycin, as no evidence of resistant gram + bacteria at this
   time
   - Change acyclovir to prophylactic dose
   - Continue meropenem until sputum culture back
   - Continue
line holiday
   - Culture once daily while spiking
   - Tylenol PRN
   - Give Demerol for rigors
   .
   #. Hypoxic Respiratory failure:  Patient now on PSV, but failed
   extubation attempts twice in the last two days.  Etiology of hypoxic
   status most likely from volume overload, as well as possible infectious
   source in lungs (multifocal infiltrates on CT, but BAL cultures
   negative so far) or transplant associated pneumonitis with large
   contribution from mental status.
   - Lasix overnight
   - Continue on PSV
   - Extubation attempt this AM
   - NPO at MN
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation.
   - increase metoprolol to 37.5mg TID
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   #. Altered mental status:
   Most consistent with delirium in setting of infection, now complicated
   by several days of high dose sedatives. Sedative requirement remains
   high, and patient becomes agitated when sedatives weaned.
   - start zyprexa 2.5-5mg TID PRN and attempt to decrease fentanyl/midaz
   .
   # Acute Renal Failure: Cr back at baseline.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +14.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2112-02-05 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode.
   Trial of Presidex yesterday, without obvious benefit --> perhaps
   bradycardia, apnea.
   Now receiving Fentanyl and bolus versed prn.
   Overall, more awake and interactive this AM, although still not
   consistently attentive.
   Meropenem alone as antimicrobial.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Azithromycin - [**2112-2-2**] 03:31 PM
   Micafungin - [**2112-2-2**] 08:00 PM
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-5**] 02:11 AM
   Acyclovir - [**2112-2-5**] 07:09 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-4**] 10:00 AM
   Midazolam (Versed) - [**2112-2-5**] 06:45 AM
   Fentanyl - [**2112-2-5**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2112-2-5**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100.1
   HR: 95 (62 - 123) bpm
   BP: 172/71(94) {106/40(55) - 191/79(99)} mmHg
   RR: 23 (9 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,508 mL
                                                                    502 mL
   PO:
             TF:
   IVF:
                                                                  1,048 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    990 mL
   Urine:
                                                                  2,520 mL
                                                                    490 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,012 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (166 - 563) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: 7.49/30/74/24/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   50 K/uL
   95 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   26 mg/dL
   110 mEq/L
   146 mEq/L
   27.4 %
   22.0 K/uL
        [image002.jpg]
                            [**2112-2-1**]  04:06 PM
                            [**2112-2-1**]  05:28 PM
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   Hct
   27.7
   30.7
   26.8
   27.4
   Plt
   76
   66
   58
   52
   50
   Cr
   1.9
   1.7
   1.3
   1.1
   1.1
   1.1
   TCO2
   23
   25
   23
   Glucose
   127
   120
   101
   96
   108
   95
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.2
   mg/dL, Mg++:1.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   75 yof multiple myeloma --> s/p BMT, now hospital course complicated by
   respiratory failure and persistent fevers.
   RESPIRATORY FAILURE -- persisitent.  Unclear etiology, but with
   persisitent abnormal CXR (predominately effusions), unfavorable RSBI,
   and poor SBT attempts.  Suspect mulitifactorial, with major
   contributions of sedation, hypomagnesemia and perhaps generalized
   weakness.  However, need to consider possible pulmonary vascular
   disease (evidence for pulmonary hypertension by echo), cardiac disease,
   or transplant-related cardiac or lung abnormalities.  Would obtain CT
   angio to assess for thromboembolic disease (and assess lung
   consolidation).  Consider repeat cardiac echo as f/u to pulmonary
   hypertension.
   FEVER -- unclear etiology.  Only isolate is VRE from urine source.  Now
   overall improved, with antimicrobials adjusted to Meropenem alone
   (other empirical Daptomycin, Acyclovir,  completed), and with WBC
   improving.
   ALTERED MENTAL STATUS -- overall, somewhat improved over past 24
   hours.    Unclear etiology (unrevealing LP and head MRI), but most
   recently attributed to sedating medications.  Monitor exam.
   TACHYCARDIA -- attributed to A-fib --> diltiazem.  Unclear etiology,
   but concern for possible thromboembolic disease as precipitant.
   Monitor HR.
   MULTIPLE MYELOMA -- s/p BMT.  Continue to monitor per usual
   post-transplant care.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-1**] 08:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2112-02-06 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --We did not wean patient from vent, as she because tachypnic every
   time we turned down PEEP; she failed SBT
   --Went for CTA chest (to rule out PE) and CTA abdomen/pelvis to look
   for infection.  This showed no PE
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-5**] 05:23 PM
   Acyclovir - [**2112-2-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2112-2-5**] 07:20 PM
   Midazolam (Versed) - [**2112-2-6**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-6**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 96 (76 - 153) bpm
   BP: 171/61(98) {129/36(59) - 197/113(123)} mmHg
   RR: 23 (14 - 41) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  2,146 mL
                                                                    745 mL
   PO:
             TF:
   IVF:
                                                                  1,696 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    890 mL
   Urine:
                                                                  1,650 mL
                                                                    340 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                     -4 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 483 (406 - 483) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///19/
   NIF: -20 cmH2O
   Ve: 6.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   8.1 g/dL
   81 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.1 mEq/L
   16 mg/dL
   106 mEq/L
   138 mEq/L
   24.4 %
   27.0 K/uL
        [image002.jpg]
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   27.0
   Hct
   27.7
   30.7
   26.8
   27.4
   24.4
   Plt
   66
   58
   52
   50
   66
   Cr
   1.7
   1.3
   1.1
   1.1
   1.1
   1.0
   0.9
   TCO2
   23
   25
   23
   Glucose
   120
   101
   96
   108
   95
   102
   81
   Other labs: PT / PTT / INR:14.8/29.7/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient continues to have low grade fevers, and is currently
   afebrile at 98.3.  No clear source for infection, only urine that is
   positive for VRE s/p full course of dapto.  Chest CT with multifocal
   infiltrates in chest, possibly [**3-8**] to transplant associated
   penumotnitis vs. multifocal PNA.  Consider atypical mycoplasma which
   may take more time to grow on BAL samples. MRI head without gross
   abnormalities,
   .
   - Finished course of dapto for VRE.
   - C.Diff negative yesterday
   - Change acyclovir to prophylactic dose
   - Continue meropenem until sputum culture back (day 1 [**2-2**])
 sputum
   with no micro-organisms on gram stain, comensals so far on culture.
   - Continue
line holiday
   - Culture once daily while spiking
   - Tylenol PRN
   - Give Demerol for rigors
   .
   #. Hypoxic Respiratory failure:  Patient now on PSV, but failed
   extubation attempts twice in the last two days.  Etiology of hypoxic
   status most likely from volume overload, as well as possible infectious
   source in lungs (multifocal infiltrates on CT, but BAL cultures
   negative so far) or transplant associated pneumonitis.  Other barriers
   to extubation include mental status, anxiety, and fatigue.  CT showed
   no PE, unchanged  bilateral pleural effusions.
   .
   - Renal function improved, would diurese aggressively today. (-1-2l)
   - RSBI
 28, NIF (-20) - ?needs increased training, better nutrition?
   - ? Extubation attempt today or tomorrow
   - Currently NPO for possible extubation today
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation.
   - increased metoprolol to 50mg TID
 still tachycardic, would increase
   today
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   #. Altered mental status:
   Most consistent with delirium in setting of infection, now complicated
   by several days of high dose sedatives. Sedative requirement remains
   high, and patient becomes agitated when sedatives weaned.
   - zyprexa 2.5-5mg TID PRN
   .
   # Acute Renal Failure: Cr back at baseline.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +14.
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
 currently NPO
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2112-02-06 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Underwent CT angio chest --> no evidence for central pulmonary
   embolism.
   More awake this AM, interactive, appropriate.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-5**] 05:23 PM
   Acyclovir - [**2112-2-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-6**] 08:00 AM
   Fentanyl - [**2112-2-6**] 08:15 AM
   Pantoprazole (Protonix) - [**2112-2-6**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2112-2-6**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 96 (76 - 153) bpm
   BP: 161/54(75) {129/36(59) - 197/113(123)} mmHg
   RR: 19 (14 - 41) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  2,146 mL
                                                                    935 mL
   PO:
             TF:
   IVF:
                                                                  1,696 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    990 mL
   Urine:
                                                                  1,650 mL
                                                                    440 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                     -4 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 440 (406 - 483) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///19/
   NIF: -20 cmH2O
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   66 K/uL
   81 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.1 mEq/L
   16 mg/dL
   106 mEq/L
   138 mEq/L
   24.4 %
   27.0 K/uL
        [image002.jpg]
                            [**2112-2-1**]  06:54 PM
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   27.0
   Hct
   27.7
   30.7
   26.8
   27.4
   24.4
   Plt
   66
   58
   52
   50
   66
   Cr
   1.7
   1.3
   1.1
   1.1
   1.1
   1.0
   0.9
   TCO2
   23
   25
   23
   Glucose
   120
   101
   96
   108
   95
   102
   81
   Other labs: PT / PTT / INR:14.8/29.7/1.3, CK / CKMB / Troponin-T:57//,
   ALT / AST:17/18, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   75 yof multiple myeloma --> s/p BMT, now hospital course complicated by
   respiratory failure and persistent fevers.
   RESPIRATORY FAILURE -- persisitent.  Unclear etiology, but with
   persisitent abnormal CXR (predominately effusions), unfavorable RSBI,
   marginal NIF, and poor SBT attempts.  Suspect mulitifactorial, with
   major contributions of sedation, hypomagnesemia and perhaps generalized
   weakness.  No evidence for pulmonary vascular disease (evidence for
   pulmonary hypertension by echo), cardiac disease, or transplant-related
   cardiac or lung abnormalities.  Persistent bilateral lung atalectasis
   and/or consolidation).  Consider repeat cardiac echo as f/u to
   pulmonary hypertension.
   FEVER -- unclear etiology.  Only isolate is VRE from urine source.  Now
   overall improved, with antimicrobials adjusted to Meropenem alone
   (other empirical Daptomycin, Acyclovir,  completed), and with WBC
   increasing.
   ALTERED MENTAL STATUS -- overall, much more improved over past 24 hours
   (continues to improve over past 48 hours).    Unclear etiology
   (unrevealing LP and head MRI), but most recently attributed to sedating
   medications.  Monitor exam.
   TACHYCARDIA -- attributed to A-fib --> diltiazem.  Unclear etiology,
   but concern for possible thromboembolic disease as precipitant.
   Monitor HR.
   MULTIPLE MYELOMA -- s/p BMT.  Continue to monitor per usual
   post-transplant care.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-5**] 05:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2112-02-07 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -- HR well controlled on propafol
   -- -2L with IV lasix x 2
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-6**] 09:45 PM
   Acyclovir - [**2112-2-7**] 05:54 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-6**] 08:00 AM
   Fentanyl - [**2112-2-6**] 08:15 AM
   Pantoprazole (Protonix) - [**2112-2-6**] 08:29 AM
   Furosemide (Lasix) - [**2112-2-6**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-7**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 106 (73 - 120) bpm
   BP: 129/56(73) {110/42(70) - 179/89(102)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,759 mL
                                                                    423 mL
   PO:
             TF:
                                                                    182 mL
                                                                     70 mL
   IVF:
                                                                  1,168 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  3,630 mL
                                                                    500 mL
   Urine:
                                                                  3,080 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -1,871 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (280 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 8.7 L/min
   Physical Examination
   General:  Intubated, furrowed brows, looks uncomfortable
   Chest: Coarse breath sounds, no focal finding
   Cardiac:  Irregularly irregular
   Abdomen: +BS, distended but soft
   Extremities: In pneumoboots, warm and dry
   Labs / Radiology
   88 K/uL
   9.2 g/dL
   100 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.3 mEq/L
   12 mg/dL
   109 mEq/L
   144 mEq/L
   28.0 %
   21.7 K/uL
        [image002.jpg]
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
                             [**2112-2-7**]  04:18 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   27.0
   21.7
   Hct
   27.7
   30.7
   26.8
   27.4
   24.4
   28.0
   Plt
   66
   58
   52
   50
   66
   88
   Cr
   1.7
   1.3
   1.1
   1.1
   1.1
   1.0
   0.9
   1.0
   TCO2
   25
   23
   Glucose
   120
   101
   96
   108
   95
   102
   81
   100
   Other labs: PT / PTT / INR:14.8/29.7/1.3, CK / CKMB / Troponin-T:123//,
   ALT / AST:24/52, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:8.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.5
   mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient afebrile x 24h.  s/p course of dapto for UTI.  Most
   likely pt had neutropenic fevers that have resolved with recovering
   counts.
   - cont ppx acyclovir and Bactrim
   -  cont meropenem given fever within past 48 hours, f/u BMT about
   D/Cing
   - Continue
line holiday
   .
   #. Hypoxic Respiratory failure:  Patient now on PSV, but failed
   extubation attempts twice in the last two days.  Etiology of hypoxic
   status most likely from volume overload, as well as possible
   underlying  infectious source in lungs, but is becoming less likely
   after course of broad spectrum abx and no fevers.  Mental status is
   improved off of midazolam for several days.   CT showed no PE,
   unchanged  bilateral pleural effusions. Neg 1.8L over past 24 hrs, so
   should be more optimized for extubation today.
   - Extubation today
   - cont diuresis, TBB goal neg >1L
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Trial of propofol yesterday resulted in better rate
   control. Will need continued rate control after extubation, will start
   with IV meds, possibly IV dilt drip, or can attempt speech and swallow
   eval if doing well.
   - cont metoprolol to 50mg TID
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID PRN
   .
   # Acute Renal Failure: Cr back at baseline.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +15
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-1-31**] 10:00 PM 20 mL/hour
 currently NPO
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2112-02-07 10:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated with Propofol.
   Tolerating SBT this AM with propofol off.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Daptomycin - [**2112-2-4**] 06:45 PM
   Meropenem - [**2112-2-6**] 09:45 PM
   Acyclovir - [**2112-2-7**] 05:54 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-6**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2112-2-7**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 88 (73 - 106) bpm
   BP: 132/68(79) {110/56(70) - 160/89(102)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,759 mL
                                                                    455 mL
   PO:
             TF:
                                                                    182 mL
                                                                     70 mL
   IVF:
                                                                  1,168 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  3,630 mL
                                                                    720 mL
   Urine:
                                                                  3,080 mL
                                                                    720 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -1,871 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (280 - 360) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   88 K/uL
   100 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.3 mEq/L
   12 mg/dL
   109 mEq/L
   144 mEq/L
   28.0 %
   21.7 K/uL
        [image002.jpg]
                            [**2112-2-2**]  03:58 AM
                            [**2112-2-3**]  04:35 AM
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
                             [**2112-2-7**]  04:18 AM
   WBC
   7.1
   15.8
   20.2
   22.0
   27.0
   21.7
   Hct
   27.7
   30.7
   26.8
   27.4
   24.4
   28.0
   Plt
   66
   58
   52
   50
   66
   88
   Cr
   1.7
   1.3
   1.1
   1.1
   1.1
   1.0
   0.9
   1.0
   TCO2
   25
   23
   Glucose
   120
   101
   96
   108
   95
   102
   81
   100
   Other labs: PT / PTT / INR:14.8/29.7/1.3, CK / CKMB / Troponin-T:123//,
   ALT / AST:24/52, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:8.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.5
   mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   75 yof multiple myeloma --> s/p BMT, now hospital course complicated by
   respiratory failure and persistent fevers.
   RESPIRATORY FAILURE -- persisitent.  Unclear etiology, but with
   persisitent abnormal CXR (predominately effusions), unfavorable RSBI,
   marginal NIF, and poor SBT attempts.  Suspect mulitifactorial, with
   major contributions of sedation, hypomagnesemia and perhaps generalized
   weakness.  No evidence for pulmonary vascular disease (evidence for
   pulmonary hypertension by echo), cardiac disease, or transplant-related
   cardiac or lung abnormalities.  Persistent bilateral lung atalectasis
   and/or consolidation.  Tolerated net diuresis with radigraphic
   improvement of bilateral effusions.  Consider repeat cardiac echo as
   f/u to pulmonary hypertension.  Hope to move to trial of extubation.
   FEVER -- unclear etiology, now resolved.  Only isolate is VRE from
   urine source.  Now overall improved, with antimicrobials adjusted to
   Meropenem alone (other empirical Daptomycin, Acyclovir,  completed),
   and with WBC increasing.
   ALTERED MENTAL STATUS -- overall, much more improved over past 24 hours
   (continues to improve over past 48 hours).    Unclear etiology
   (unrevealing LP and head MRI), but most recently attributed to sedating
   medications.  Monitor exam.
   TACHYCARDIA -- attributed to A-fib --> diltiazem.  Unclear etiology,
   but concern for possible thromboembolic disease as precipitant.
   Monitor HR.
   HYPOKALEMIA -- replete to K>4.0
   MULTIPLE MYELOMA -- s/p BMT.  Continue to monitor per usual
   post-transplant care.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-5**] 05:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2112-02-08 07:29:00 Physician Resident Progress Note
Chief Complaint:  respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-2-7**] 11:00 AM
   - extubated, doing well
   - diuresed extremely well to IV Lasix (3L UOP), became hypernatremic to
   148 (free water deficit 2L), wrote for 1L D5W over 24 hours
   - taking pills and sips of POs
   - remains anxious, intermittently agitated, on Haldol 2mg q6h prn,
   morphine for discomfort
   - has urinary irritation, possibly from Foley, trying pyridium and will
   D/C foley when possible
   History obtained from Patient
   Allergies:
   History obtained from PatientPercocet (Oral) (Oxycodone
   Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Acyclovir - [**2112-2-7**] 11:48 PM
   Meropenem - [**2112-2-8**] 03:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-7**] 10:00 AM
   Morphine Sulfate - [**2112-2-7**] 07:30 PM
   Metoprolol - [**2112-2-7**] 11:00 PM
   Haloperidol (Haldol) - [**2112-2-7**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   c/o low back pain this morning
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2112-2-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 120 (88 - 137) bpm
   BP: 151/73(91) {117/56(76) - 187/120(131)} mmHg
   RR: 30 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                    655 mL
                                                                    100 mL
   PO:
             TF:
                                                                     70 mL
   IVF:
                                                                    445 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,565 mL
                                                                    270 mL
   Urine:
                                                                  3,565 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,910 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 286 (286 - 433) mL
   PS : 5 cmH2O
   RR (Spontaneous): 42
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly and in axillae)
   Abdominal: Soft, Bowel sounds present, Tender: suprapubic area
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moves all
   extremities
   Labs / Radiology
   110 K/uL
   8.1 g/dL
   117 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.0 mEq/L
   9 mg/dL
   108 mEq/L
   144 mEq/L
   23.8 %
   19.2 K/uL
        [image002.jpg]
                            [**2112-2-4**]  04:04 AM
                            [**2112-2-4**]  10:29 AM
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
                             [**2112-2-7**]  04:18 AM
                             [**2112-2-7**]  02:39 PM
                             [**2112-2-8**]  05:01 AM
   WBC
   20.2
   22.0
   27.0
   21.7
   19.2
   Hct
   26.8
   27.4
   24.4
   28.0
   23.8
   Plt
   52
   50
   66
   88
   110
   Cr
   1.1
   1.1
   1.1
   1.0
   0.9
   1.0
   1.0
   1.0
   TCO2
   25
   23
   Glucose
   96
   108
   95
   102
   81
   100
   123
   117
   Other labs: PT / PTT / INR:14.8/29.7/1.3, CK / CKMB / Troponin-T:123//,
   ALT / AST:24/52, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:8.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   #. Fevers: Patient afebrile x 48h.  s/p course of dapto for UTI.  Most
   likely pt had neutropenic fevers that have resolved with recovering
   counts.
   - cont ppx acyclovir and Bactrim
   -  cont meropenem given fever within past 72 hours, f/u BMT about
   D/Cing -> will cont for now
   - Continue
line holiday
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from volume overload, as well as possible underlying  infectious source
   in lungs, but is becoming less likely after course of broad spectrum
   abx and no fevers.  Mental status is improved off of midazolam.   CT
   showed no PE, unchanged  bilateral pleural effusions. Diuresis likely
   aided extubation yesterday.  Patient tolerating extubation well
   - cont diuresis, TBB goal neg >1L via PRN diuretics
   - speech and swallow eval s/p extubation
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.
   - cont metoprolol to 50mg TID
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   - will consider anti-coag today with warfarin
   .
   #  Anemia- Hct drop from 28 to23.8.  No obvious sign of hemorrhage.
   - will guaiac stool, check retic
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID PRN
   .
   # Acute Renal Failure: Cr back at baseline.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +16
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-5**] 05:25 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-09 07:43:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2112-2-8**] 11:27 AM
   - responded to lasix 20 mg IV
   - no new BMT/cards recs
   - ID rec'd stopping meropenem after tomorrow ([**2112-2-9**])
   - if Hct < 25 tomorrow, one unit PRBC per BMT, possible call out
   tomorrow
   - more dyspneic objectively, on 6 liters n/c, morphine x 1 and repeated
   lasix this morning
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Acyclovir - [**2112-2-8**] 12:24 PM
   Meropenem - [**2112-2-9**] 04:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-8**] 07:49 AM
   Furosemide (Lasix) - [**2112-2-9**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   denies chest pain/pressure, feels "winded" with exertion, (-) n/d/f/c,
   episode of reflux with pills last night
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Cough, non-productive
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea
   Genitourinary: Foley
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2112-2-9**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 102 (82 - 120) bpm
   BP: 143/64(86) {134/53(74) - 166/79(114)} mmHg
   RR: 33 (25 - 36) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  1,550 mL
                                                                    176 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                  1,230 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    650 mL
   Urine:
                                                                  2,130 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -580 mL
                                                                   -474 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, mild dyspnea
   with conversation
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left > right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   142 K/uL
   8.1 g/dL
   98 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   145 mEq/L
   24.3 %
   17.2 K/uL
        [image002.jpg]
                            [**2112-2-4**]  08:56 PM
                            [**2112-2-4**]  10:49 PM
                             [**2112-2-5**]  04:36 AM
                             [**2112-2-5**]  06:04 PM
                             [**2112-2-6**]  03:33 AM
                             [**2112-2-7**]  04:18 AM
                             [**2112-2-7**]  02:39 PM
                             [**2112-2-8**]  05:01 AM
                             [**2112-2-8**]  03:48 PM
                             [**2112-2-9**]  03:38 AM
   WBC
   22.0
   27.0
   21.7
   19.2
   17.2
   Hct
   27.4
   24.4
   28.0
   23.8
   25.9
   24.3
   Plt
   50
   66
   88
   110
   142
   Cr
   1.1
   1.1
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   1.2
   TCO2
   23
   Glucose
   108
   95
   102
   81
   100
   123
   117
   113
   98
   Other labs: PT / PTT / INR:14.0/29.7/1.2, CK / CKMB / Troponin-T:123//,
   ALT / AST:24/52, Alk Phos / T Bili:61/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:8.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: LENIs - no evidence of DVT
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from volume overload, as well as possible underlying  infectious source
   in lungs, but is becoming less likely after course of broad spectrum
   abx and no fevers.  Mental status improved off of midazolam.   CT
   showed no PE, unchanged  bilateral pleural effusions. Diuresis likely
   aided extubation.  Patient tolerating extubation well.  Exam and CXR
   suggest bilateral pleural effusions, left > right.
   - cont diuresis, TBB goal neg >1L via PRN diuretics
   - speech and swallow eval s/p extubation
   - if no improvement in oxygen requirement following diuresis, consider
   CT chest to eval pleural effusions, possible diagnostic/therapeutic
   thoracentesis
   #. Fevers: Patient afebrile.  s/p course of dapto for UTI.  Most likely
   pt had neutropenic fevers that have resolved with recovering counts.
   - cont ppx acyclovir and Bactrim
   -  cont meropenem given fever within past 72 hours, f/u BMT about
   D/Cing -> will d/c today
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.
   - cont metoprolol to 50mg TID
   - cont diltiazem PO 90 QID
   - Daily weights
   - Appreciate cardiology input
   - will consider anti-coag with warfarin
   .
   #  Anemia- Hct drop from 28 to23.8.  No obvious sign of hemorrhage.
   - will guaiac stool, retic count suggests mild hypoproliferation
   - consider one unit PRBC per BMT later today if diuresis progressing
   well
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID PRN
   .
   # Acute Renal Failure: Cr back at baseline.  Cont to monitor
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +18
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-9**] 04:16 AM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-10 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2112-2-9**]
   -agigitated, tachypneic, tachycardic all day long
   -had increasing oxygen requirements eventually had an A-A gradient of
   480 on 80% FIO2, alkalemic, re-intubated after calling family
   -went down for CT PA, (-) but pleural effusions increased (premedicated
   for CT scan)
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Meropenem - [**2112-2-9**] 04:10 AM
   Acyclovir - [**2112-2-9**] 08:02 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-9**] 08:45 AM
   Haloperidol (Haldol) - [**2112-2-9**] 09:20 PM
   Furosemide (Lasix) - [**2112-2-10**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-10**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (71 - 138) bpm
   BP: 104/50(64) {104/33(64) - 166/97(109)} mmHg
   RR: 16 (16 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                    632 mL
                                                                    631 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                    302 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  1,000 mL
   Urine:
                                                                  2,840 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,208 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/44/214/26/7
   Ve: 6.6 L/min
   PaO2 / FiO2: 428
   Physical Examination
   General Appearance: Intubated, sedated,  Well nourished, No acute
   distress, mild dyspnea with conversation
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left > right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Labs / Radiology
   129 K/uL
   8.3 g/dL
   112 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   143 mEq/L
   24.3 %
   10.6 K/uL
        [image002.jpg]
                             [**2112-2-7**]  04:18 AM
                             [**2112-2-7**]  02:39 PM
                             [**2112-2-8**]  05:01 AM
                             [**2112-2-8**]  03:48 PM
                             [**2112-2-9**]  03:38 AM
                             [**2112-2-9**]  11:20 PM
                             [**2112-2-9**]  11:54 PM
                             [**2112-2-10**]  04:13 AM
                             [**2112-2-10**]  05:08 AM
                             [**2112-2-10**]  05:10 AM
   WBC
   21.7
   19.2
   17.2
   9.9
   10.6
   Hct
   28.0
   23.8
   25.9
   24.3
   21.4
   24.3
   Plt
   88
   110
   142
   130
   129
   Cr
   1.0
   1.0
   1.0
   1.0
   1.2
   1.2
   TCO2
   28
   30
   32
   Glucose
   100
   123
   117
   113
   98
   112
   Other labs: PT / PTT / INR:14.0/29.7/1.2, CK / CKMB / Troponin-T:123//,
   ALT / AST:29/62, Alk Phos / T Bili:107/0.4, Amylase / Lipase:15/8,
   Differential-Neuts:80.0 %, Band:8.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:240 IU/L, Ca++:7.9
   mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now intubated.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Given falling white count off of ABX, inx is less likely.
   Despite excellent diuresis she had increasing oxygen requirements, with
   tachypnea, agitation, and tachycardia.  ABG on 80% facemask revealed a
   paO2 of 51.  This calculated out to an A-A gradient of 480.  At this
   point Ms. [**Known lastname 12343**] had to be re-intubated.  Her improved oxygenation on
   positive pressure ventilation may relate to re-expansion of her
   attelectatic lung
   - cont diuresis, TBB goal neg >2-4 L neg.  Will make [**Hospital1 7**] lasix standing
   for now
   - [**Hospital1 7**] lytes
   - Plan for diagnostic tap to elicit transudative vs exudative
   - Cardiology consulted re: rhythym control and return of atrial kick.
   - final read of CT
   .
   #. Fevers: Patient afebrile.  s/p course of dapto for UTI, empiric
   [**Last Name (un) **].  Most likely pt had neutropenic fevers that have resolved with
   recovering counts.
   - cont ppx acyclovir and Bactrim
   - observe off [**Last Name (un) 614**] for now
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Imporved on
   ventilator.
   - cont metoprolol currently at 100mg TID
   - cont diltiazem PO 90 QID
   - Cards input re: rhythym control greatly appreciated
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia- Hct drop from 28 to23.8.  HCT stable today, 1^[**First Name8 (NamePattern2) **] [**Location (un) **] 21,
   however on repeat stable at 24.
   - will guaiac stool, retic count suggests mild hypoproliferation
   - [**Hospital1 7**] HCT
   .
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID
   - haldol PRN
   .
   # Acute Renal Failure: Cr back at baseline.  Cont to monitor  for signs
   of contrast nephropathy or lasix induced pre-renal azotemia.  Was
   premedicated.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +19
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet (tube feeds?)
   ICU Care
   Nutrition: re-start tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-10**] 03:32 AM
   Prophylaxis:
   DVT: Heparin SC TID now that plts improved
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-11 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2112-2-10**] 03:38 PM
 ARTERIAL LINE - START [**2112-2-10**] 03:44 PM
 THORACENTESIS - At [**2112-2-10**] 08:50 PM
 FEVER - 102.1
F - [**2112-2-10**] 03:00 PM
   - AF with RVR, continued on dilt and metoprolol
   - low BPs all day, tried to hold off giving fluids, but MAP low 50s,
   bolused 250cc x 2
   - fever 102, started vanco, zosyn, pan-cx
   - will need BAL for PCP in AM, LDH elevated from baseline to 450
   - sent b-glucan, galactomannan again
   - cards recs: diuresis, hold off cardioversion b/c unlikely to stay in
   sinus with volume overload, did not think cardiac amyloid was likely
   and do not rec cardiac MRI
   - a-line placed
   - thoracentesis: removed 600cc, no PTX, straw colored fluid
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Meropenem - [**2112-2-9**] 04:10 AM
   Vancomycin - [**2112-2-10**] 08:30 PM
   Acyclovir - [**2112-2-10**] 09:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-11**] 02:31 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-10**] 02:19 PM
   Midazolam (Versed) - [**2112-2-11**] 12:45 AM
   Fentanyl - [**2112-2-11**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   unable to provide [**3-8**] sedation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2112-2-11**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.4
   HR: 80 (76 - 120) bpm
   BP: 115/41(57) {78/33(46) - 155/78(96)} mmHg
   RR: 20 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
             Total In:
                                                                  2,356 mL
                                                                    871 mL
   PO:
             TF:
   IVF:
                                                                  2,146 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                  2,271 mL
                                                                    120 mL
   Urine:
                                                                  1,671 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     85 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/39/137/29/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   7.7 g/dL
   97 mg/dL
   1.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   24.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2112-2-9**]  11:20 PM
                             [**2112-2-9**]  11:54 PM
                             [**2112-2-10**]  04:13 AM
                             [**2112-2-10**]  05:08 AM
                             [**2112-2-10**]  05:10 AM
                             [**2112-2-10**]  01:54 PM
                             [**2112-2-10**]  03:46 PM
                             [**2112-2-10**]  04:55 PM
                             [**2112-2-11**]  03:50 AM
                             [**2112-2-11**]  05:49 AM
   WBC
   9.9
   10.6
   8.8
   Hct
   21.4
   24.3
   23.9
   24.1
   Plt
   130
   129
   150
   Cr
   1.2
   1.5
   1.7
   TropT
   0.03
   TCO2
   28
   30
   32
   29
   Glucose
   112
   115
   97
   Other labs: PT / PTT / INR:16.2/44.1/1.4, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:25/48, Alk Phos / T Bili:88/0.4,
   Amylase / Lipase:15/8, Differential-Neuts:54.0 %, Band:1.0 %,
   Lymph:22.0 %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:477 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.5
   mg/dL
   Imaging: no PE. bilateral large pleural effusions with compressive
   [**Last Name (LF) 12543**], [**First Name3 (LF) **] be
   larger than on study 5 days prior. no signs for PNA. ETT in
   satisfactory
   position
   Microbiology: [**2112-2-10**] 8:14 pm PLEURAL FLUID
      GRAM STAIN (Final [**2112-2-10**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   blood, urine cx pending
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Despite diuresis, albeit mild, she had increasing tachypnea,
   agitation, and tachycardia.  ABG on 80% facemask revealed a paO2 of 51,
   with high A-A gradient.  At this point Ms. [**Known lastname 12343**] had to be
   re-intubated.  Her improved oxygenation on positive pressure
   ventilation.  Suspect patient required more aggressive diuresis
   post-extubation in setting of LVH and likely elevated filling pressures
   exacerbated by a. fib with RVR, unfortunately, did not respond to
   diuretics in setting of possible contrast-induced nephropathy.
   - favor continuing diuresis, will discuss with team
   - [**Hospital1 7**] lytes
   - thoracentesis suggest transudative effusion, likely [**3-8**] diastolic CHF
   in setting of a. fib with RVR
   - appreciate Cardiology recs, low suspicion for amyloid given lack of
   echocardiographic findings
   - will perform mini-BAL, see below
   .
   #. Hypotension/Fevers: Patient respiked fever yesterday, pan-cultured,
   started on broad coverage Abx with vanc and zosyn.  s/p course of dapto
   for UTI, empiric [**Last Name (un) **].  Most likely pt had neutropenic fevers that have
   resolved with recovering counts.  Etiology of current fever pneumonia
   vs. abdominal course.  Requiring levophed today for hypotension.
   - will treat empirically for C. diff given her abdominal exam,
   prolonged course of Abx
   - cont ppx acyclovir and Bactrim
   - mini BAL to eval for infection in lung, ? PCP
   [**Name Initial (PRE) **] cont [**Name9 (PRE) **] and zosyn, although will limit GNR coverage if no culture
   data
   - cont to wean levophed as able
   .
   #  ARF- Creatinine trending up.  Etiology contrast-induced nephropathy
   vs. ischemic ATN.  Patient has only been on prophylactic dose of
   bactrim.  Less likely pre-renal/post-renal.
   - will send urine lytes
   - will consult Nephrology, appreciate recs
   - will renally dose meds
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Improved on
   ventilator.  Etiology of a. fib likely [**3-8**] atrial stretch and
   exacerbated by possible infection.
   - will attempt to decrease metoprolol
   - cont diltiazem PO 90 QID
   - Cards input re: rhythym control greatly appreciated; team is
   considering ;amio load for chemical cardioversion
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia- Hct drop from 28 to23.8.  HCT stable.  Continue to monitor.
   Vitamin K x 1 for INR.
   - will guaiac stool, retic count suggests mild hypoproliferation
   - [**Hospital1 7**] HCT
   .
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID
   - haldol PRN
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +20
   - Appreciate BMT team input into further management
   - Transplant precautions
   - Low bacteria diet (tube feeds?)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-9**] 04:16 AM
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  pantoprazole
   VAP:  vanc/zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]

2112-02-12 07:29:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 EKG - At [**2112-2-11**] 11:13 AM
 STOOL CULTURE - At [**2112-2-11**] 11:14 AM
 BRONCHOSCOPY - At [**2112-2-11**] 04:22 PM
 PA CATHETER - START [**2112-2-11**] 07:00 PM
 BLOOD CULTURED - At [**2112-2-12**] 12:06 AM
 URINE CULTURE - At [**2112-2-12**] 02:48 AM
 FEVER - 102.6
C - [**2112-2-12**] 12:00 AM
   - bronch yesterday, clear secretions, lavage sent for cxs
   - nephrology consult -> ? CVVH
   - placed right cordis, floated swan, PCWP 14 mmHg
   - pharm to renally dose meds when indicated
   - febrile overnight, re-cultured, re-started levophed, NS 500 cc x 2
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-10**] 08:30 PM
   Acyclovir - [**2112-2-11**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-12**] 03:47 AM
   Metronidazole - [**2112-2-12**] 04:40 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-11**] 08:01 AM
   Pantoprazole (Protonix) - [**2112-2-11**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-12**] 12:00 AM
   Fentanyl - [**2112-2-12**] 06:40 AM
   Midazolam (Versed) - [**2112-2-12**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2112-2-12**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.2
C (99
   HR: 74 (70 - 113) bpm
   BP: 88/42(55) {88/42(55) - 114/47(60)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.3 kg (admission): 65.5 kg
    CVP: 10 (2 - 11)mmHg
   PAP: (39 mmHg) / (21 mmHg)
   Mixed Venous O2% Sat: 36 - 36
   Total In:
                                                                  2,483 mL
                                                                  1,341 mL
   PO:
   TF:
   IVF:
                                                                  2,008 mL
                                                                  1,186 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                     85 mL
   Urine:
                                                                    445 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,038 mL
                                                                  1,256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 372 (372 - 372) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilaterally)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, mildly tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   134 K/uL
   7.8 g/dL
   96 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   25 mg/dL
   105 mEq/L
   139 mEq/L
   23.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2112-2-9**]  11:54 PM
                             [**2112-2-10**]  04:13 AM
                             [**2112-2-10**]  05:08 AM
                             [**2112-2-10**]  05:10 AM
                             [**2112-2-10**]  01:54 PM
                             [**2112-2-10**]  03:46 PM
                             [**2112-2-10**]  04:55 PM
                             [**2112-2-11**]  03:50 AM
                             [**2112-2-11**]  05:49 AM
                             [**2112-2-12**]  04:15 AM
   WBC
   9.9
   10.6
   8.8
   9.2
   Hct
   21.4
   24.3
   23.9
   24.1
   23.0
   Plt
   130
   129
   150
   134
   Cr
   1.2
   1.5
   1.7
   1.8
   TropT
   0.03
   TCO2
   30
   32
   29
   Glucose
   112
   115
   97
   96
   Other labs: PT / PTT / INR:16.1/52.9/1.4, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:25/48, Alk Phos / T Bili:88/0.4,
   Amylase / Lipase:15/8, Differential-Neuts:54.0 %, Band:1.0 %,
   Lymph:22.0 %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:477 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Microbiology: Respiratory Viral Culture (Pending):
      Respiratory Viral Antigen Screen (Pending):
   GRAM STAIN (Final [**2112-2-11**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   FECAL CULTURE (Final [**2112-2-11**]):
         TEST NOT PERFORMED.
         PATIENT HAS BEEN HOSPITALIZED FOR >3 DAYS.
         IF TESTING IS STILL REQUIRED, CONTACT THE MICROBIOLOGY LAB
   (7-2306).
      CAMPYLOBACTER CULTURE (Final [**2112-2-11**]):
         TEST NOT PERFORMED.
         PATIENT HAS BEEN HOSPITALIZED FOR >3 DAYS.
         IF TESTING IS STILL REQUIRED, CONTACT THE MICROBIOLOGY LAB
   (7-2306).
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Preliminary):
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5.  Does not correlate with SVO2 of 37%.  Repeat SVO2 54%.
   Given filling pressures, cardiac function appears nearly optimized.
   Certainly no evidence of overt left heart failure.  Perhaps patient has
   elevated wedge in setting of a. fib with RVR.
   -  will d/c levophed, give trial of 500 cc bolus of NS, recheck
   pressures, SVO2
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Despite diuresis, albeit mild, she had increasing tachypnea,
   agitation, and tachycardia, with hypoxemia requiring re-intubation.
   Her improved oxygenation on positive pressure ventilation.  Suspect
   patient required more aggressive diuresis post-extubation in setting of
   LVH and likely elevated filling pressures exacerbated by a. fib with
   RVR, unfortunately, did not respond to diuretics in setting of possible
   ischemic ATN.  BAL unremarkable with clear secretions.
   - [**Hospital1 7**] lytes
   - thoracentesis suggest transudative effusion, likely [**3-8**] diastolic CHF
   in setting of a. fib with RVR; less likely [**3-8**] constrictive
   pericarditis, nephrotic syndrome, cirrhosis, PE
   - appreciate Cardiology recs, low suspicion for amyloid given lack of
   echocardiographic findings
   - f/u results of BAL
   .
   #. Hypotension/Fevers: Patient respiked fever over past two days,
   pan-cultured, started on broad coverage Abx with vanc and zosyn.  s/p
   course of dapto for UTI, empiric [**Last Name (un) **].  Etiology of current fever
   pneumonia vs. abdominal course.  Requiring levophed today for
   hypotension.  Will cont broad coverage for 48 hours awaiting culture
   data.
   - will treat empirically for C. diff given her abdominal exam,
   prolonged course of Abx
   - cont ppx acyclovir and Bactrim
   - cont vanc and zosyn, although will limit GNR coverage if no culture
   data after 48 hours
   - cont to wean levophed as able
   .
   #  ARF- Creatinine trending up.  Etiology contrast-induced nephropathy
   vs. ischemic ATN.  Patient has only been on prophylactic dose of
   bactrim.  Less likely pre-renal/post-renal.
   - will send urine lytes
   - appreciate renal recs
   - will renally dose meds
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Improved on
   ventilator.  Etiology of a. fib likely [**3-8**] atrial stretch and
   exacerbated by possible infection.
   - d/c metoprolol
   - cont diltiazem PO 90 QID, consider digoxin
   - Cards input re: rhythym control greatly appreciated; team is
   considering ;amio load for chemical cardioversion
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia- Hct drop from 28 to23.8.  HCT stable.  Continue to monitor.
   Vitamin K x 1 for INR.
   - will guaiac stool, retic count suggests mild hypoproliferation
   - [**Hospital1 7**] HCT
   - one unit PRBC today
   .
   #. Altered mental status:
   Most consistent with delirium, now improving. Patient alert and
   interactive, answering questions appropriately.
   - zyprexa 2.5-5mg TID
   - haldol PRN
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +20
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   PA Catheter - [**2112-2-11**] 07:00 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   pantoprazole
   VAP:  zosyn, vanc
   Comments:   husband HCP
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]

2112-02-13 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -poor oxygenation, started taking shallower breathes,
   decided to rest her overnight (back on a/c)
   24 Hour Events:
 EKG - At [**2112-2-12**] 12:00 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-12**] 09:51 AM
   Vancomycin - [**2112-2-12**] 08:06 PM
   Acyclovir - [**2112-2-12**] 08:06 PM
   Bactrim (SMX/TMP) - [**2112-2-12**] 08:07 PM
   Piperacillin - [**2112-2-13**] 03:20 AM
   Metronidazole - [**2112-2-13**] 03:20 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-12**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-12**] 08:07 PM
   Midazolam (Versed) - [**2112-2-13**] 05:30 AM
   Fentanyl - [**2112-2-13**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-13**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 103 (69 - 108) bpm
   BP: 90/40(51) {85/35(46) - 164/68(90)} mmHg
   RR: 16 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.5 kg (admission): 65.5 kg
   Height: 62 Inch
    CVP: 4 (2 - 15)mmHg
   PAP: (11 mmHg) / (7 mmHg)
   PCWP: 15 (15 - 20) mmHg
   CO/CI (Thermodilution): (4.75 L/min) / (1.7 L/min/m2)
   CO/CI (Fick): (3.7 L/min) / (2.2 L/min/m2)
   SVR: 1,455 dynes*sec/cm5
   PVR: 140 dynes*sec/cm5
   SvO2: 51%
   Mixed Venous O2% Sat: 42 - 51
   SV: 35 mL
   SVI: 21 mL/m2
   Total In:
                                                                  4,014 mL
                                                                    944 mL
   PO:
                                 TF:
                                                                     41 mL
                                                                     35 mL
   IVF:
                                                                  3,423 mL
                                                                    869 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                    635 mL
                                                                    130 mL
   Urine:
                                                                    515 mL
                                                                    130 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  3,379 mL
                                                                    814 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 404 (395 - 433) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/35/67/20/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress, sedated and intubated, follows
   commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilaterally)
   Abdominal: Soft, Bowel sounds present, mildly distended, mildly tender
   (grimaces)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   108 K/uL
   8.1 g/dL
   95 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.2 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   24.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2112-2-10**]  04:55 PM
                             [**2112-2-11**]  03:50 AM
                             [**2112-2-11**]  05:49 AM
                             [**2112-2-12**]  04:15 AM
                             [**2112-2-12**]  11:19 AM
                             [**2112-2-12**]  02:02 PM
                             [**2112-2-12**]  02:47 PM
                             [**2112-2-12**]  03:33 PM
                             [**2112-2-12**]  09:20 PM
                             [**2112-2-13**]  03:48 AM
   WBC
   8.8
   9.2
   8.6
   Hct
   24.1
   23.0
   27.3
   27
   24.2
   Plt
   150
   134
   108
   Cr
   1.5
   1.7
   1.8
   1.4
   TCO2
   29
   24
   22
   22
   22
   Glucose
   115
   97
   96
   95
   Other labs:
   ALT / AST:63/105, Alk Phos / T Bili:61/0.3, LDH:484 IU/L
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   MICRO: C. dif neg x 2
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presents to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 54%.  Patient may have reduced forward flow due to
   absent atrial kick and diastolic CHF in AF with RVR, no overt left
   heart failure. Off pressors.
   - obtain repeat numbers from Swan, then consider D/Cing or converting
   to triple lumen
   - f/u CXR for Swan position
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Despite diuresis, albeit mild, she had increasing tachypnea,
   agitation, and tachycardia, with hypoxemia requiring re-intubation.
   Thoracentesis suggested transudative effusion, likely [**3-8**] diastolic CHF
   in setting of a. fib with RVR. Pt was intially diuresed too
   aggressively with resulting hypotension, and then had difficulty
   responding to Lasix in setting of ATN.  BAL results neg for bacterial,
   fungal and PCP.
   [**Name Initial (NameIs) **] likely remains total volume overloaded, goal TBB -500cc today
   - control AF with RVR, rhythm conversion would help by adding atrial
   kick
   - wean vent settings as tolerated
   .
   #. Hypotension/Fevers: Patient respiked fever but now afebrile for 24
   hours.On vanc, zosyn, Flagyl.  s/p course of dapto for UTI, empiric
   [**Last Name (un) **].  No positive cx, C. dif negative x 2.
   - cont current regimen as patient has been afebrile since starting
   - send 3^rd C dif, consider D/C Flagyl if negative
   - redose vancomycin q24h and check level before 3^rd dose ([**2-16**])
   - cont ppx acyclovir and Bactrim
   .
   #  ARF- Creatinine trending down. Likely ischemic ATN, multifactorial,
   in setting of probable sepsis, diuresis, hypotension, possible additive
   component of contrast-induced nephropathy. Amlyoid/myeloma less likely
   since no proteinuria
   - appreciate renal recs
   - no indication for RRT
   - will [**Name2 (NI) **] dose meds
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Improved on
   ventilator.  Etiology of a. fib likely [**3-8**] atrial stretch and
   exacerbated by possible infection.
   - start dilt gtt
   - digoxin load
   - will consider amio load if above fails
   - unlikely to benefit from cardioversion while volume overloaded since
   will not maintain sinus
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia/thrombocytopenia- Hct drop from 27 to 24 with no obvious
   source. Plt 134 to 108.
   - check retic count, B12, folate and iron studies (bone marrow may not
   have nutritional reserves to respond to stress)
   - [**Hospital1 7**] HCT
   - transfusion goals Hct>25 (if still has poor Sv02) and plt>50 only if
   bleeding
   .
   #. Altered mental status:
   Most consistent with delirium
   - zyprexa 2.5-5mg TID
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +21
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition: TF 10cc/hr
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   PA Catheter - [**2112-2-11**] 07:00 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   pantoprazole
   VAP:  zosyn, vanc
   Comments:   husband HCP
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]

2112-02-13 12:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, altered
   mental status, anemia
   HPI:
   On PSV, tidal volumes were inadequate and patient placed back on volume
   ventilation. FIO2 0.4 with acceptable PaO2 in 60s.
   Transiently on levophed yesterday. With fluids, able to come off
   pressors.
   On vanco/zosyn for presumed pulmonary source of fever. Tmax [**Age over 90 **]
   yesterday.
   Hct down slightly this AM.
   Creat slightly improved.
   24 Hour Events:
 EKG - At [**2112-2-12**] 12:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-12**] 09:51 AM
   Vancomycin - [**2112-2-12**] 08:06 PM
   Acyclovir - [**2112-2-12**] 08:06 PM
   Bactrim (SMX/TMP) - [**2112-2-12**] 08:07 PM
   Piperacillin - [**2112-2-13**] 03:20 AM
   Metronidazole - [**2112-2-13**] 03:20 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-2-13**] 07:44 AM
   Fentanyl - [**2112-2-13**] 07:44 AM
   Pantoprazole (Protonix) - [**2112-2-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-13**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 121 (69 - 145) bpm
   BP: 88/49(59) {81/35(46) - 164/60(83)} mmHg
   RR: 17 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.5 kg (admission): 65.5 kg
   Height: 62 Inch
   CVP: 5 (2 - 15)mmHg
   PAP: (35 mmHg) / (21 mmHg)
   PCWP: 15 (15 - 20) mmHg
   CO/CI (Thermodilution): (4.75 L/min) / (1.7 L/min/m2)
   CO/CI (Fick): (3.7 L/min) / (2.2 L/min/m2)
   SVR: 1,594 dynes*sec/cm5
   PVR: -84 dynes*sec/cm5
   Mixed Venous O2% Sat: 42 - 50
   SV: 36 mL
   SVI: 22 mL/m2
                                Total In:
                                                                  4,014 mL
                                                                  1,676 mL
   PO:
                                TF:
                                                                     41 mL
                                                                     83 mL
   IVF:
                                                                  3,423 mL
                                                                  1,554 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                    635 mL
                                                                    240 mL
   Urine:
                                                                    515 mL
                                                                    240 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  3,379 mL
                                                                  1,436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 404 (395 - 433) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/35/67/20/-1
   Ve: 6.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI low pitched systolic murmur at apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   108 K/uL
   95 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.2 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   24.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2112-2-10**]  04:55 PM
                             [**2112-2-11**]  03:50 AM
                             [**2112-2-11**]  05:49 AM
                             [**2112-2-12**]  04:15 AM
                             [**2112-2-12**]  11:19 AM
                             [**2112-2-12**]  02:02 PM
                             [**2112-2-12**]  02:47 PM
                             [**2112-2-12**]  03:33 PM
                             [**2112-2-12**]  09:20 PM
                             [**2112-2-13**]  03:48 AM
   WBC
   8.8
   9.2
   8.6
   Hct
   24.1
   23.0
   27.3
   27
   24.2
   Plt
   150
   134
   108
   Cr
   1.5
   1.7
   1.8
   1.4
   TCO2
   29
   24
   22
   22
   22
   Glucose
   115
   97
   96
   95
   Other labs: PT / PTT / INR:15.0/40.3/1.3, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:63/105, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.0 %, Band:1.0 %,
   Lymph:22.0 %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:484 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Microbiology: BAL negative thus far.
   C diff negative.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   ACUTE RENAL FAILURE
   =============================
   Concern that patient may have diastolic dysfunction given the echo
   findings and the PA cath data. The persistent tachycardia may be
   complicating her cardiac output and contributing to ongoing CHF. PA
   cath no longer able to achieve a PCWP. Will restart diltiazem by IV
   infusion for rate control. If it is inadequate or leads to unacceptable
   hypotension, would switch to amiodarone. Suspect we can continue to
   diurse given BUN/Creat ratio and CXR yesterday. [**Month (only) 51**] not be able to
   mobilize fluid more than 0.5 L/day. Thus, would not aim for negative
   fluid balance of more than 0.5 L today. Renal function is improving
   from episode of presumed ATN.
   Given that patient had Tmax < [**Age over 90 **] yesterday, would continue antibiotics
   despite absence of specific culture results to guide therapy.
   Hct drifting down slightly. Not at transfusion threshold today, but if
   mixed venous O2 sat still below 60, would consider transfusion.
   Coming down slowly on sedation. Not agitated at this time.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-13**] 05:43 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   PA Catheter - [**2112-2-11**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-14 07:52:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - improved rate control on dilt drip and dig load
   - from Swan: CI 2, SVR 900, Sv02 48
   - Hct 24 --> 22 --> transfused 1 u prbcs
   - B12/folate/iron studies look OK
   - frequent loose stools, C dif neg x 2, sent 3rd, on empiric Flagyl
   - will consider D/C Swan vs. converting to triple lumen over wire in AM
   - no cards recs
   - TBB goal -500cc but held off diuresis since having frequent loose
   stools and hemodynamics looked so good
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2112-2-12**] 08:07 PM
   Piperacillin - [**2112-2-13**] 03:20 AM
   Acyclovir - [**2112-2-13**] 08:00 PM
   Vancomycin - [**2112-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-14**] 04:20 AM
   Metronidazole - [**2112-2-14**] 04:20 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2112-2-14**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 69 (62 - 163) bpm
   BP: 117/47(62) {79/36(48) - 142/65(85)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.6 kg (admission): 65.5 kg
   Height: 62 Inch
    CVP: 19 (5 - 21)mmHg
   PAP: (42 mmHg) / (19 mmHg)
   CO/CI (Thermodilution): (3.89 L/min) / (2.3 L/min/m2)
   SVR: 1,378 dynes*sec/cm5
   Mixed Venous O2% Sat: 48 - 48
   SV: 46 mL
   SVI: 28 mL/m2
   Total In:
                                                                  3,841 mL
                                                                    446 mL
   PO:
   TF:
                                                                    203 mL
                                                                    130 mL
   IVF:
                                                                  3,249 mL
                                                                    316 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    450 mL
                                                                    210 mL
   Urine:
                                                                    450 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,391 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 332 (332 - 332) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 93%
   ABG: 7.42/31/70/20/-2
   Ve: 5.3 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anterior)
   Abdominal: Soft, quiet BS, less distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   105 K/uL
   9.9 g/dL
   113 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.3 mEq/L
   16 mg/dL
   109 mEq/L
   140 mEq/L
   28.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2112-2-12**]  04:15 AM
                             [**2112-2-12**]  11:19 AM
                             [**2112-2-12**]  02:02 PM
                             [**2112-2-12**]  02:47 PM
                             [**2112-2-12**]  03:33 PM
                             [**2112-2-12**]  09:20 PM
                             [**2112-2-13**]  03:48 AM
                             [**2112-2-13**]  03:07 PM
                             [**2112-2-14**]  05:52 AM
                             [**2112-2-14**]  06:14 AM
   WBC
   9.2
   8.6
   8.8
   11.9
   Hct
   23.0
   27.3
   27
   24.2
   22.4
   28.5
   Plt
   134
   108
   101
   105
   Cr
   1.8
   1.4
   1.4
   TCO2
   24
   22
   22
   22
   21
   Glucose
   96
   95
   113
   Other labs: PT / PTT / INR:13.6/36.6/1.2, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:63/105, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.0 %, Band:1.0 %,
   Lymph:22.0 %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:484 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Microbiology: BAL (-), Resp viral screen (-)
   c. diff (-) x 3
   blood cxs pending
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 40s-50s%.  Patient may have reduced forward flow
   due to absent atrial kick and diastolic CHF in AF with RVR, no overt
   left heart failure. Off pressors.
   Given conflicting data, will d/c Swan, convert to triple lumen to allow
   continued monitoring of CVP.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Despite diuresis, albeit mild, she had increasing tachypnea,
   agitation, and tachycardia, with hypoxemia requiring re-intubation.
   Thoracentesis suggested transudative effusion, likely [**3-8**] diastolic CHF
   in setting of a. fib with RVR. Pt was intially diuresed too
   aggressively with resulting hypotension, and then had difficulty
   responding to Lasix in setting of ATN.  BAL results neg for bacterial,
   fungal and PCP.
   [**Name Initial (NameIs) **] remains total volume overloaded, goal TBB -1000cc today
   - control AF with RVR with digoxin, goal is to d/c dilt gtt, convert to
   PO dilt if needed
   - wean vent settings as tolerated
   .
   #. Hypotension/Fevers: Patient respiked fever but now afebrile for 48
   hours.  On vanc, zosyn; Flagyl for C. diff.  s/p course of dapto for
   UTI, empiric [**Last Name (un) **].  No positive cx, C. dif negative x 3.
   - cont current regimen as patient has been afebrile since starting
   - cont empiric flagyl despite (-) C. diff studies
   - redose vancomycin q24h and check level before 3^rd dose ([**2-16**])
   - cont ppx acyclovir and Bactrim
   .
   #  ARF- Creatinine stable. Likely ischemic ATN, multifactorial, in
   setting of probable sepsis, diuresis, hypotension, possible additive
   component of contrast-induced nephropathy. Amlyoid/myeloma less likely
   since no proteinuria
   - appreciate renal recs
   - no indication for RRT
   - will [**Name2 (NI) **] dose meds, recheck urine lytes today
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Improved on
   ventilator.  Etiology of a. fib likely [**3-8**] atrial stretch and
   exacerbated by possible infection.
   - weab dilt gtt to off, cont digoxin load
   - will consider amio load if above fails
   - unlikely to benefit from cardioversion while volume overloaded since
   will not maintain sinus
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia/thrombocytopenia- Hct drop from 27 to 24 with no obvious
   source. Plt 134 to 108.
   - B12, folate and iron studies normal
   - [**Hospital1 7**] HCT
   - transfusion goals Hct>25 (if still has poor Sv02) and plt>50 only if
   bleeding
   .
   #. Altered mental status:
   Most consistent with delirium.  Discontinued zyprexa given prolonged QT
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +21
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-13**] 05:43 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   PA Catheter - [**2112-2-11**] 07:00 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   pantoprazole
   VAP:   vanc, zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]

2112-02-14 10:44:00 Physician Attending Progress Note
Chief Complaint: AFib, myeloma, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mixed venous O2 sat still low. Transfused 1 unit of blood yesterday.
   Heart rate now in 60's to 70's after loaded with dig and diltiazem;
   dilt dose being reduced.
   Creat slightly better.
   Oxygenation good on FIO2 0.4, PEEP 5. Sats down a bit this AM, however.
   Respiratory rate >35 on SBT this AM.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2112-2-12**] 08:07 PM
   Piperacillin - [**2112-2-13**] 03:20 AM
   Vancomycin - [**2112-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-14**] 04:20 AM
   Metronidazole - [**2112-2-14**] 04:20 AM
   Acyclovir - [**2112-2-14**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-14**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 75 (62 - 163) bpm
   BP: 110/48(62) {79/36(48) - 142/65(85)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.6 kg (admission): 65.5 kg
   Height: 62 Inch
   CVP: 12 (5 - 21)mmHg
   PAP: (41 mmHg) / (20 mmHg)
   CO/CI (Thermodilution): (3.89 L/min) / (2.3 L/min/m2)
   SVR: 925 dynes*sec/cm5
   Mixed Venous O2% Sat: 48 - 48
   SV: 55 mL
   SVI: 33 mL/m2
   Total In:
                                                                  3,841 mL
                                                                    828 mL
   PO:
   TF:
                                                                    203 mL
                                                                    179 mL
   IVF:
                                                                  3,249 mL
                                                                    529 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    450 mL
                                                                    260 mL
   Urine:
                                                                    450 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,391 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 332 (332 - 332) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 93%
   ABG: 7.42/31/70/20/-2
   Ve: 6.9 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+ edema, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   105 K/uL
   113 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.3 mEq/L
   16 mg/dL
   109 mEq/L
   140 mEq/L
   28.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2112-2-12**]  04:15 AM
                             [**2112-2-12**]  11:19 AM
                             [**2112-2-12**]  02:02 PM
                             [**2112-2-12**]  02:47 PM
                             [**2112-2-12**]  03:33 PM
                             [**2112-2-12**]  09:20 PM
                             [**2112-2-13**]  03:48 AM
                             [**2112-2-13**]  03:07 PM
                             [**2112-2-14**]  05:52 AM
                             [**2112-2-14**]  06:14 AM
   WBC
   9.2
   8.6
   8.8
   11.9
   Hct
   23.0
   27.3
   27
   24.2
   22.4
   28.5
   Plt
   134
   108
   101
   105
   Cr
   1.8
   1.4
   1.4
   TCO2
   24
   22
   22
   22
   21
   Glucose
   96
   95
   113
   Other labs: PT / PTT / INR:13.6/36.6/1.2, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:63/105, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.0 %, Band:1.0 %,
   Lymph:22.0 %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:484 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR: right hemidiaphragm slightly better seen. Bilateral
   alveolar infitrates and pleural effusions unchanged.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   CHF - DIASTOLIC- CHRONIC
   PLEURAL EFFUSIONS
   ANEMIA
   ==============================
   Heart rate now under better control. Reducing dose of diltiazem.
   Cardiac index still on low side yesterday but BP has been better with
   lower rate. With CXR still showing gross evidence of pulmonary edema
   and with oxygen saturations a bit lower today, will begin diuresis to
   achieve negative fluid balance of 0.5-1.0 L/day. Will remove PA cath
   today and replace with triple lumen catheter.
   Hct up to 28 with transfusion of PRBCs yesterday.
   Will complete 7 day course of antibiotics. Cultures remain normal.
   Try to reduce sedation now; patient changed from assist control to PSV
   - may be more comfortable on that ventilation mode.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-13**] 05:43 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   PA Catheter - [**2112-2-11**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2112-02-15 07:35:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 STOOL CULTURE - At [**2112-2-14**] 11:36 AM
 PA CATHETER - STOP [**2112-2-14**] 02:06 PM
 MULTI LUMEN - START [**2112-2-14**] 03:15 PM
   - converted Swan to triple lumen over wire
   - lasix 10 mg IV x 3, goal of [**Telephone/Fax (1) 179**] cc (-)
   - d/c'd dilt gtt, cont good rate control on dig, level in AM
   - no significant vent changes today
   - Renal still following, no new recs
   - tachycardic overnight, improved with sedation
   History obtained from Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2112-2-12**] 08:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-14**] 04:20 AM
   Vancomycin - [**2112-2-14**] 08:31 PM
   Acyclovir - [**2112-2-14**] 09:19 PM
   Piperacillin - [**2112-2-15**] 04:00 AM
   Metronidazole - [**2112-2-15**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-14**] 07:51 PM
   Furosemide (Lasix) - [**2112-2-15**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2112-2-15**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 92 (63 - 114) bpm
   BP: 112/51(63) {94/40(51) - 138/58(78)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 65.5 kg
   Height: 62 Inch
    CVP: 44 (12 - 44)mmHg
   PAP: (38 mmHg) / (16 mmHg)
   Total In:
                                                                  1,683 mL
                                                                    379 mL
   PO:
   TF:
                                                                    454 mL
                                                                    176 mL
   IVF:
                                                                  1,109 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    700 mL
   Urine:
                                                                  1,810 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -127 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 390 (389 - 441) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.43/32/98.[**Numeric Identifier 176**]/21/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   109 K/uL
   10.0 g/dL
   115 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   112 mEq/L
   140 mEq/L
   28.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2112-2-12**]  02:47 PM
                             [**2112-2-12**]  03:33 PM
                             [**2112-2-12**]  09:20 PM
                             [**2112-2-13**]  03:48 AM
                             [**2112-2-13**]  03:07 PM
                             [**2112-2-14**]  05:52 AM
                             [**2112-2-14**]  06:14 AM
                             [**2112-2-14**]  05:45 PM
                             [**2112-2-15**]  04:37 AM
                             [**2112-2-15**]  04:58 AM
   WBC
   8.6
   8.8
   11.9
   10.7
   Hct
   27
   24.2
   22.4
   28.5
   28.8
   Plt
   108
   101
   105
   109
   Cr
   1.4
   1.4
   1.4
   TCO2
   22
   22
   22
   21
   22
   22
   Glucose
   95
   113
   115
   Other labs: PT / PTT / INR:13.6/36.6/1.2, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:414 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Microbiology: stool studies (-), including C. diff
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 40s-50s%.  Patient may have reduced forward flow
   due to absent atrial kick and diastolic CHF in AF with RVR, no overt
   left heart failure. Off pressors.
   Given conflicting data, discontinued Swan, converted to triple lumen to
   allow continued monitoring of CVP.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Despite diuresis, albeit mild, she had increasing tachypnea,
   agitation, and tachycardia, with hypoxemia requiring re-intubation.
   Thoracentesis suggested transudative effusion, likely [**3-8**] diastolic CHF
   in setting of a. fib with RVR. Pt was intially diuresed too
   aggressively with resulting hypotension, and then had difficulty
   responding to Lasix in setting of ATN.  BAL results neg for bacterial,
   fungal and PCP.   [**Name10 (NameIs) **] is hypervolemic, will proceed with diuresis
   today, hopefully this will begin to optimize her pulmonary status.
   - remains total volume overloaded, goal TBB -2000cc today
   - control AF with RVR with digoxin, cont to hold on other rate
   controlling meds
   - wean vent settings as tolerated
   .
   #. Hypotension/Fevers: Patient respiked fever but now afebrile for 72
   hours.  On vanc, zosyn.  s/p course of dapto for UTI, empiric [**Last Name (un) **].  No
   positive cx, C. dif negative x 3.
   - cont current regimen as patient has been afebrile since starting,
   today day [**6-10**]
   - will discontinue flagyl
   - cont vancomycin q24h
   - cont ppx acyclovir and Bactrim
   .
   #  ARF- Creatinine stable. Likely ischemic ATN, multifactorial, in
   setting of probable sepsis, diuresis, hypotension, possible additive
   component of contrast-induced nephropathy. Amlyoid/myeloma less likely
   since no proteinuria.  Cont goal of diuresis as above.
   - appreciate renal recs
   - no indication for RRT
   - will consider [**Month/Day (4) **] dosing meds
   .
   #. Tachycardia:  Afib with RVR.  CHADS2 score is 2 (age and
   hypertension), so she will eventually require consideration for
   anticoagulation. Will need continued rate control.  Rate control is
   actually best achieved with decreased agitation, sedation.  Improved on
   ventilator.  Etiology of a. fib likely [**3-8**] atrial stretch and
   exacerbated by possible infection.
   - cont digoxin, hold off other rate controlling meds
   - unlikely to benefit from cardioversion while volume overloaded since
   will not maintain sinus
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #  Anemia/thrombocytopenia- Hct drop from 27 to 24 with no obvious
   source. Plt 134 to 108.
   - B12, folate and iron studies normal
   - [**Hospital1 7**] HCT
   - transfusion goals Hct>25 (if still has poor Sv02) and plt>50 only if
   bleeding
   .
   #. Altered mental status:
   Most consistent with delirium, now resolved.  Discontinued zyprexa
   given prolonged QT
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +21
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-13**] 05:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   pantoprazole
   VAP:  vanc/zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   [**Hospital Unit Name 1**]

2112-02-16 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   -Started on lasix drip
   -Started PO dilt 30mg QID
   24 Hour Events:
 STOOL CULTURE - At [**2112-2-16**] 02:20 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin - [**2112-2-15**] 04:00 AM
   Metronidazole - [**2112-2-15**] 04:00 AM
   Acyclovir - [**2112-2-15**] 07:25 PM
   Vancomycin - [**2112-2-15**] 07:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-16**] 04:49 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-15**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-15**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 96 (84 - 108) bpm
   BP: 104/55(69) {100/52(64) - 131/66(81)} mmHg
   RR: 27 (21 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.2 kg (admission): 65.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,841 mL
                                                                    477 mL
   PO:
             TF:
                                                                    673 mL
                                                                    229 mL
   IVF:
                                                                  1,068 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  1,460 mL
   Urine:
                                                                  2,700 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                   -983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 307 (307 - 385) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.42/36/89.[**Numeric Identifier 126**]/22/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: hyperdynamic precordium, nom/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Soft, distended, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: not following commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   122 K/uL
   10.4 g/dL
   117 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   14 mg/dL
   111 mEq/L
   141 mEq/L
   30.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2112-2-13**]  03:07 PM
                             [**2112-2-14**]  05:52 AM
                             [**2112-2-14**]  06:14 AM
                             [**2112-2-14**]  05:45 PM
                             [**2112-2-15**]  04:37 AM
                             [**2112-2-15**]  04:58 AM
                             [**2112-2-15**]  04:00 PM
                             [**2112-2-15**]  10:30 PM
                             [**2112-2-16**]  02:51 AM
                             [**2112-2-16**]  03:00 AM
   WBC
   8.8
   11.9
   10.7
   10.1
   Hct
   22.4
   28.5
   28.8
   30.3
   Plt
   101
   105
   109
   122
   Cr
   1.4
   1.4
   1.4
   1.4
   1.5
   TCO2
   21
   22
   22
   24
   Glucose
   113
   115
   101
   151
   117
   Other labs: Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Thoracentesis suggested transudative effusion, likely [**3-8**]
   diastolic CHF in setting of a. fib with RVR. Pt was intially diuresed
   too aggressively with resulting hypotension, and then had difficulty
   responding to Lasix in setting of ATN.  BAL results neg for bacterial,
   fungal and PCP.   [**Name10 (NameIs) **] was diuresed effectively in last 24 hours,
   -2L. On PSV 5/5 currently with RBSI <100, but becoming more agitated,
   tachycardic and hypertensive on lower sedation.
   - D/C versed/fentanyl and try propofol until extubation attempt in AM
   - attempt to treat agitation with standing antipsychotic if QT interval
   normalized
   - continue lasix gtt as tolerated by BP, goal 2-4L negative today
   - control AF with RVR with digoxin and dilt
   - attempt extubation when above factors optimized (tomorrow)
   .
   #. Hypotension/Fevers: Patient respiked fever but now afebrile for >72
   hours.  On vanc, zosyn.  s/p course of dapto for UTI, empiric [**Last Name (un) **].  No
   positive cx, C. dif negative x 3.
   - cont current regimen as patient has been afebrile since starting,
   today day [**7-14**]
   - cont ppx acyclovir and Bactrim
   .
   #  ARF- Creatinine stable. Likely ischemic ATN, multifactorial, in
   setting of probable sepsis, diuresis, hypotension, possible additive
   component of contrast-induced nephropathy. Amlyoid/myeloma less likely
   since no proteinuria.  Cont goal of diuresis as above.
   - appreciate renal recs
   - no indication for RRT
   - will consider renally dosing meds
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Will need
   continued rate control.  Rate control is actually best achieved with
   decreased agitation, sedation.  Improved on ventilator.  Etiology of a.
   fib likely [**3-8**] atrial stretch and will not maintain SR if cardioverted
   while still overloaded.
   - cont digoxin and dilt
   - will consider anti-coag with warfarin when HCT has clearly stabilized
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 40s-50s%.  Patient may have reduced forward flow
   due to absent atrial kick and diastolic CHF in AF with RVR, no overt
   left heart failure. Off pressors.
   Given conflicting data, discontinued Swan, converted to triple lumen to
   allow continued monitoring of CVP.
   .
   #  Anemia/thrombocytopenia- Hct and Plt stable and wnl in past 24 hrs.
   .
   #. Altered mental status:
   Most consistent with delirium.
   - consider seroquel or zyprexa if QTc wnl
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +22
   - Appreciate BMT team input into further management
   - Transplant precautions
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2112-2-13**] 05:43 AM 30 mL/hour
   NPO at MN
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   pantoprazole
   VAP:  vanc/zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   [**Hospital Unit Name 1**]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-17 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued lasix gtt with goal -2-4L
   - QTc wnl, OK to give antipsychotics prn
   - switched to propofol drip overnight
   - increased RR and SBP with holding propofol
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin - [**2112-2-15**] 04:00 AM
   Metronidazole - [**2112-2-15**] 04:00 AM
   Vancomycin - [**2112-2-16**] 08:03 PM
   Acyclovir - [**2112-2-16**] 08:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-17**] 04:06 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-16**] 08:03 PM
   Fentanyl - [**2112-2-16**] 08:04 PM
   Midazolam (Versed) - [**2112-2-16**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-17**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 113 (83 - 113) bpm
   BP: 142/74(92) {98/43(57) - 165/82(101)} mmHg
   RR: 31 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.2 kg (admission): 65.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,781 mL
                                                                    281 mL
   PO:
             TF:
                                                                    461 mL
   IVF:
                                                                  1,150 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                  1,180 mL
   Urine:
                                                                  4,420 mL
                                                                  1,180 mL
   NG:
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,899 mL
                                                                   -899 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (300 - 367) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.47/37/81.[**Numeric Identifier 508**]/25/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: hyperdynamic precordium, nom/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Soft, distended, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: not following commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   149 K/uL
   11.7 g/dL
   86 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   106 mEq/L
   140 mEq/L
   33.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2112-2-14**]  05:45 PM
                             [**2112-2-15**]  04:37 AM
                             [**2112-2-15**]  04:58 AM
                             [**2112-2-15**]  04:00 PM
                             [**2112-2-15**]  10:30 PM
                             [**2112-2-16**]  02:51 AM
                             [**2112-2-16**]  03:00 AM
                             [**2112-2-16**]  03:43 PM
                             [**2112-2-17**]  12:16 AM
                             [**2112-2-17**]  03:34 AM
   WBC
   10.7
   10.1
   12.4
   Hct
   28.8
   30.3
   33.0
   Plt
   109
   122
   149
   Cr
   1.4
   1.4
   1.4
   1.5
   1.5
   1.5
   TCO2
   22
   22
   24
   28
   Glucose
   115
   101
   151
   117
   91
   86
   Other labs: PT / PTT / INR:13.5/28.9/1.2, CK / CKMB /
   Troponin-T:51/2/0.03, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:414 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Thoracentesis suggested transudative effusion, likely [**3-8**]
   diastolic CHF in setting of a. fib with RVR. Pt was intially diuresed
   too aggressively with resulting hypotension, and then had difficulty
   responding to Lasix in setting of ATN.  BAL results neg for bacterial,
   fungal and PCP.   [**Name10 (NameIs) **] was diuresed effectively in last 24 hours,
   -2L. On PSV 5/5 currently with RBSI <100, but becoming more agitated,
   tachycardic and hypertensive on lower sedation.   ?Central cause of
   RSB,  given alkalemia, pCO2 of 37 on SBT.
   - D/C versed/fentanyl and try propofol until extubation attempt in AM,
   - make olanzapine standing.
   - continue lasix gtt as tolerated by BP, goal 2-4L negative today
   - control AF with RVR with digoxin and dilt
   - attempt extubation when above factors optimized (tomorrow)
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Will need
   continued rate control.  Rate control is actually best achieved with
   decreased agitation, sedation.  Improved on ventilator.  Etiology of a.
   fib likely [**3-8**] atrial stretch and will not maintain SR if cardioverted
   while still overloaded.
   - cont digoxin and increase dilt to 60mg QID
   - Would start anti-coag with warfarin when HCT has clearly stabilized
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
Infectious
      NO ENTERIC GRAM NEGATIVE RODS FOUND.
      NO SALMONELLA OR SHIGELLA FOUND.
      NO CAMPYLOBACTER FOUND.
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN.
      Feces negative for C.difficile toxin A & B by EIA.
Secretory
      Fecal Fat and osms are still pending (have to resend osms)
- Hold tube feeds today to see if this is source of diarrhea, if diarrhea contin
ues despite 24hours off of tube feeds, would d/c abx at this point.
   .
   #. Hypotension/Fevers: Patient respiked fever but now afebrile for >72
   hours.  On vanc, zosyn.  s/p course of dapto for UTI, empiric [**Last Name (un) **].  No
   positive cx, C. dif negative x 3.
   - cont current regimen as patient has been afebrile since starting,
   today day [**8-13**]
   - cont ppx acyclovir and Bactrim (would ideally like to d/c bactrim if
   ok with heme/onc as patient is nearly a month post transplant and has a
   wbc of 12.)
   .
   #  ARF- Creatinine stable. Likely ischemic ATN, multifactorial, in
   setting of probable sepsis, diuresis, hypotension, possible additive
   component of contrast-induced nephropathy. Amlyoid/myeloma less likely
   since no proteinuria.  Cont goal of diuresis as above.
   - appreciate renal recs
   - no indication for RRT
   - will consider renally dosing meds
   - ?hold bactrim
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 40s-50s%.  Patient may have reduced forward flow
   due to absent atrial kick and diastolic CHF in AF with RVR, no overt
   left heart failure. Off pressors.
   Given conflicting data, discontinued Swan, converted to triple lumen to
   allow continued monitoring of CVP.
   .
   #  Anemia/thrombocytopenia- Hct and Plt  currently increasing
   .
   #. Altered mental status:
   Most consistent with delirium.
   - consider seroquel or zyprexa if QTc wnl
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +23
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-18 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: none
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Acyclovir - [**2112-2-17**] 07:41 PM
   Vancomycin - [**2112-2-17**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-18**] 04:13 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-17**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-17**] 07:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-18**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 97 (80 - 116) bpm
   BP: 148/66(88) {82/53(61) - 151/88(91)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72 kg (admission): 65.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,636 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                  1,276 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  1,980 mL
   Urine:
                                                                  4,240 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,604 mL
                                                                 -1,615 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (315 - 434) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.50/39/120/27/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished, No acute distress, sedated,
   nonresponsive but grimaces to noxious stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: hyperdynamic precordium, nom/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Soft, distended, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: not following commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   186 K/uL
   11.5 g/dL
   110 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   142 mEq/L
   32.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2112-2-15**]  04:00 PM
                             [**2112-2-15**]  10:30 PM
                             [**2112-2-16**]  02:51 AM
                             [**2112-2-16**]  03:00 AM
                             [**2112-2-16**]  03:43 PM
                             [**2112-2-17**]  12:16 AM
                             [**2112-2-17**]  03:34 AM
                             [**2112-2-17**]  04:35 PM
                             [**2112-2-18**]  03:56 AM
                             [**2112-2-18**]  04:15 AM
   WBC
   10.1
   12.4
   13.3
   Hct
   30.3
   33.0
   32.6
   Plt
   122
   149
   186
   Cr
   1.4
   1.4
   1.5
   1.5
   1.5
   1.6
   1.6
   TropT
   0.05
   0.04
   TCO2
   24
   28
   31
   Glucose
   101
   151
   117
   91
   86
   105
   110
   Other labs: Ca++:9.5 mg/dL, Mg++:3.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated with continued altered mental status.
   .
   #. Hypoxic Respiratory failure:  Etiology of hypoxic status most likely
   from pleural effusions with secondary shunting through atelectatic
   lung.  Our hypothesis is diastolic dysfunction with severely stiff and
   small LV, and tenuous balance between insufficient preload and overload
   with resulting pulmonary edema   Patient was diuresed aggresively in
   last 24 hours, -4.2L. On PSV 10/5 currently with RBSI <100.   Barrier
   to extubation is mental status and tenuous cardiac status.
   - cont olanzapine standing for agitation
   - continue lasix gtt since LOS 1.5 neg but still with peripheral edema
   and pleural effusions on CXR, if not attempting extubation today, will
   diurese less aggressively since increasing BUN/Cr today
   - control AF with RVR with digoxin and dilt
   - attempt extubation today vs. tomorrow, address with family goals of
   care if failure
   .
   #. Altered mental status: Seems to have started with chemo induction,
   no clear etiology. s/p LP, MRI, infectious w/u all negative. Repeat
   head CT neg yesterday.
   Most consistent with delirium.
   - consider zyprexa and monitor QTc
   .
   #. Leukocytosis: Patient afebrile for >72 hours with increasing
   Leukocytosis. On vanc, zosyn.  s/p course of dapto for UTI, empiric
   [**Last Name (un) **].  No positive cx, including stool studies. Head ct shows mastoid
   process.
   - consider ENT consult for mastoiditis, otoscopic exam today
   - cont current regimen as patient has been afebrile since starting,
   today day [**9-13**]
   - cont ppx acyclovir and Bactrim
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Rate control
   is best achieved with decreased agitation, sedation.
   - cont digoxin and dilt to 90mg QID
   - Would start anti-coag with warfarin when mental status issues
   resolved
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
   [**Month (only) 51**] be [**3-8**] TF, however have already been held 24 hours and no
   improvement. All infectious studies negative. [**Month (only) 51**] be [**3-8**] bowel wall
   edema.
   - f/u fecal fat/osm
   ..
   #  ARF- Creatinine rising today with aggressive diuresis. Likely
   ischemic ATN, multifactorial, in setting of probable sepsis, diuresis,
   hypotension, possible additive component of contrast-induced
   nephropathy. Amlyoid/myeloma less likely since no proteinuria.
   - appreciate renal recs
   - no indication for RRT
   - [**Name (NI) **] dosing meds
   .
   #. Cardiac Function- Cardiac output measured with PA catheter ~3, with
   CI near 2-2.5. SVO2 40s-50s%.  Patient may have reduced forward flow
   due to absent atrial kick and diastolic CHF in AF with RVR, no overt
   left heart failure. Off pressors.
   Given conflicting data, discontinued Swan, converted to triple lumen to
   allow continued monitoring of CVP.
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +24
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 1**]

2112-02-19 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - diuresed well today
   - tolerating [**Last Name (un) **]
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2112-2-18**] 08:29 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-18**] 10:00 AM
   Acyclovir - [**2112-2-18**] 08:06 PM
   Vancomycin - [**2112-2-18**] 09:00 PM
   Piperacillin - [**2112-2-19**] 03:52 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-2-18**] 08:18 AM
   Propofol - [**2112-2-18**] 11:16 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-18**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-19**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 98 (77 - 103) bpm
   BP: 145/65(86) {106/49(62) - 158/74(97)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.8 kg (admission): 65.5 kg
   Height: 62 Inch
             Total In:
                                                                  2,061 mL
                                                                    475 mL
   PO:
             TF:
   IVF:
                                                                  1,531 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  5,510 mL
                                                                  1,180 mL
   Urine:
                                                                  5,410 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,449 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (252 - 386) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   SpO2: 98%
   ABG: 7.52/39/128/30/8
   Ve: 7.7 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished, No acute distress, sedated but
   awake, not following commands consistently
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: hyperdynamic precordium, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Soft, non-distended, Non-tender, + bowel sounds
   Extremities: No edema, skin wrinkling
   Skin:  Warm
   Neurologic: not following commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   223 K/uL
   11.5 g/dL
   115 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   99 mEq/L
   141 mEq/L
   33.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2112-2-17**]  12:16 AM
                             [**2112-2-17**]  03:34 AM
                             [**2112-2-17**]  04:35 PM
                             [**2112-2-18**]  03:56 AM
                             [**2112-2-18**]  04:15 AM
                             [**2112-2-18**]  02:31 PM
                             [**2112-2-18**]  02:47 PM
                             [**2112-2-18**]  09:02 PM
                             [**2112-2-19**]  03:21 AM
                             [**2112-2-19**]  03:53 AM
   WBC
   12.4
   13.3
   10.6
   Hct
   33.0
   32.6
   33.8
   Plt
   149
   186
   223
   Cr
   1.5
   1.6
   1.6
   1.7
   1.6
   1.6
   TropT
   0.05
   0.04
   TCO2
   28
   31
   33
   33
   Glucose
   86
   105
   110
   114
   131
   115
   Other labs: PT / PTT / INR:13.5/28.9/1.2, CK / CKMB /
   Troponin-T:29/4/0.04, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:414 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   KUB: no obstruction or free air
   TTE: Left ventricular hypertrophy with small cavity size and
   hyperdynamic systolic function. Mild LV outflow tract obstruction. Mild
   mitral regurgitation. Mild pulmonary hypertension. Large bilateral
   pleural effusions and a very small pericardial effusion.
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated with continued altered mental status.
   .
   #. Hypoxic Respiratory failure: Pt has unchanged bilateral pleural.
   Our hypothesis is diastolic dysfunction with severely stiff and small
   LV, and tenuous balance between insufficient preload and overload with
   resulting pulmonary edema   Patient was diuresed aggresively [**Location 12653**]4L.
   On PSV 10/5 currently with RBSI <100.   Barrier to extubation is mental
   status and tenuous cardiac status, will continue to diurese
   pre-extubation given loss of PEEP.
   - cont olanzapine standing for agitation
   - continue lasix gtt until extubation then back off
   - control AF with RVR with digoxin and dilt
   - attempt extubation today, address with family goals of care if
   failure
   .
   #. Altered mental status: Seems to have started with chemo induction,
   no clear etiology. s/p LP, MRI, infectious w/u all negative. Repeat
   head CT neg yesterday.
   Most consistent with delirium.
   - consider zyprexa and monitor QTc
   .
   #. Leukocytosis/Fever: Patient afebrile for >72 hours. On vanc, zosyn
   for empiric coverage.  s/p course of dapto for UTI, empiric [**Last Name (un) **].  No
   positive cx, including stool studies. Head ct shows mastoid process.
   - consider ENT consult for mastoiditis, otoscopic exam today
   - cont current regimen as patient has been afebrile since starting,
   today day [**10-14**]
   - check vancomycin trough and hold AM dose if >20
   - cont ppx acyclovir and Bactrim
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Rate control
   is best achieved with decreased agitation, sedation.
   - cont digoxin and dilt to 90mg QID
   - check dig level
   - if extubated and not taking PO
s, consider dilt gtt
   - Would start anti-coag with warfarin when mental status issues
   resolved
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
   [**Month (only) 51**] be [**3-8**] TF, however have already been held 24 hours and no
   improvement. All infectious studies negative (c dif neg x 3). Most
   likely [**3-8**] bowel wall edema since improving with diuresis.
   .
   #  ARF- Creatinine rising today with aggressive diuresis. Likely
   ischemic ATN, multifactorial, in setting of probable sepsis, diuresis,
   hypotension, possible additive component of contrast-induced
   nephropathy. Amlyoid/myeloma less likely since no proteinuria.
   Worsened with aggressive diuresis, now stabilized. Tolerating [**Last Name (un) **] to
   achieve optimal diuresis for extubation.
   - appreciate renal recs
   - no indication for RRT
   - [**Name (NI) **] dosing meds
   .
   #. Cardiac Function (MR, pulm HTN)- Cardiac output measured with PA
   catheter ~3, with CI near 2-2.5. SVO2 40s-50s%.  Repeat TTE showed
   worsened high output state, with very small LVH and LVTO. Likely LV
   very stiff and acting like severe diastolic dysfunction.
   - diuresed aggressively, reflected in improved respiratory status
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +25
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code- discuss re-intubation w/ family
   Disposition: [**Hospital Unit Name 1**]
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   with assessment and plan as outlined during multidisciplinary rounds
   this morning. She has continued to diurese overnight and is now
   substantially negative for her ICU LOS.  Her RSBI was better than it
   has been since reintubation. When off Propofol she is alert and seems
   calm.  We extubated her this afternoon and she has done well
   signif SOB, SaO2 good, HR RR in good range. We are continuing to
   diureses and will try to correct her electrolytes. Hopefully will do
   weel but if she fails current plan is for reintubation and then trache.
   Time spent 50 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2112-2-19**] 17:25 ------

2112-02-20 07:49:00 Physician Resident Progress Note
Chief Complaint: altered mental status, hypoxic resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-2-19**] 03:27 PM
 EKG - At [**2112-2-19**] 10:33 PM
   - extubated
   - started dilt gtt since not taking POs
   - switched from zyprexa to haldol since not taking POs, QTC 450
   - getting KCl for hypochloremic metabolic alkalosis
   - D/Ced vancomycin since trough 39 and course complete tomorrow
   - backed off on lasix gtt
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPercocet (Oral)
   (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-18**] 09:00 PM
   Piperacillin - [**2112-2-19**] 03:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-20**] 03:59 AM
   Acyclovir - [**2112-2-20**] 07:42 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-2-19**] 07:56 PM
   Haloperidol (Haldol) - [**2112-2-19**] 10:42 PM
   Famotidine (Pepcid) - [**2112-2-20**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-20**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   difficult to arouse, denies pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2112-2-20**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (76 - 102) bpm
   BP: 148/54(81) {99/38(55) - 175/75(111)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 67.8 kg (admission): 65.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,602 mL
                                                                    896 mL
   PO:
             TF:
   IVF:
                                                                  1,272 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                    475 mL
   Urine:
                                                                  4,830 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,228 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 405 (405 - 430) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 64
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.48/48/196/32/11
   Ve: 6.5 L/min
   PaO2 / FiO2: 490
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, difficult to arouse
   Labs / Radiology
   179 K/uL
   9.1 g/dL
   97 mg/dL
   1.7 mg/dL
   32 mEq/L
   2.9 mEq/L
   13 mg/dL
   99 mEq/L
   142 mEq/L
   27.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2112-2-18**]  02:31 PM
                             [**2112-2-18**]  02:47 PM
                             [**2112-2-18**]  09:02 PM
                             [**2112-2-19**]  03:21 AM
                             [**2112-2-19**]  03:53 AM
                             [**2112-2-19**]  03:13 PM
                             [**2112-2-19**]  03:22 PM
                             [**2112-2-19**]  05:41 PM
                             [**2112-2-20**]  03:07 AM
                             [**2112-2-20**]  03:14 AM
   WBC
   10.6
   8.1
   Hct
   33.8
   27.3
   Plt
   223
   179
   Cr
   1.7
   1.6
   1.6
   1.8
   1.7
   TCO2
   33
   33
   36
   35
   37
   Glucose
   114
   131
   115
   108
   97
   Other labs: PT / PTT / INR:13.5/28.9/1.2, CK / CKMB /
   Troponin-T:29/4/0.04, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:414 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Microbiology: stool culture (-)
   ECG: LVH
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PLEURAL EFFUSION, ACUTE
   >  Hct drop
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIARRHEA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERTENSION, BENIGN
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated with continued altered mental status.
   .
   #. Hypoxic Respiratory failure: Pt has unchanged bilateral pleural.
   Our hypothesis is diastolic dysfunction with severely stiff and small
   LV, and tenuous balance between insufficient preload and overload with
   resulting pulmonary edema   Patient was diuresed aggresively [**Location 12653**]4L.
   On PSV 10/5 currently with RBSI <100.   Barrier to extubation has been
   mental status and tenuous cardiac status, continued to diurese
   pre-extubation given loss of PEEP.  Extubated yesterday without
   incident.  Ongoing discussion with patient, family, and Dr. [**Last Name (STitle) 21**] re:
   plan if patient fails again.
   - haldol PRN for agitation
   - goal Is/Os even today
   - control AF with RVR with dilt IV and digoxin PO, if cont to take good
   [**Last Name (LF) **], [**First Name3 (LF) **] restart dilt PO
   .
   #. Altered mental status: Seems to have started with chemo induction,
   no clear etiology. s/p LP, MRI, infectious w/u all negative. Repeat
   head CT neg yesterday.
   Most consistent with delirium.
   - haldol as above
   .
   #  Hct drop- No evidence of hemorrhage on exam.  Will recheck Hct,
   coags, eval for hemolysis if Hct cont to be low.
   .
   #. Leukocytosis/Fever: Patient afebrile for >72 hours. On vanc, zosyn
   for empiric coverage.  s/p course of dapto for UTI, empiric [**Last Name (un) **].  No
   positive cx, including stool studies. Head ct shows mastoid process
   - will d/c vanc/zosyn today, course completed
   - cont ppx acyclovir and Bactrim
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Rate control
   is best achieved with decreased agitation, sedation.
   - cont digoxin and dilt to 90mg QID
   - check dig level
   - Would start anti-coag with warfarin as mental status continues to
   clear
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
   [**Month (only) 51**] be [**3-8**] TF, however have already been held 24 hours and no
   improvement. All infectious studies negative (c dif neg x 3). Most
   likely [**3-8**] bowel wall edema since improving with diuresis.
   .
   #  ARF- Creatinine rising today with aggressive diuresis. Likely
   ischemic ATN, multifactorial, in setting of probable sepsis, diuresis,
   hypotension, possible additive component of contrast-induced
   nephropathy. Amlyoid/myeloma less likely since no proteinuria.
   Worsened with aggressive diuresis, now stabilized. Tolerating [**Last Name (un) **] to
   achieve optimal diuresis for extubation.
   - appreciate renal recs
   - no indication for RRT
   - [**Name (NI) **] dosing meds
   .
   #. Cardiac Function (MR, pulm HTN)- Cardiac output measured with PA
   catheter ~3, with CI near 2-2.5. SVO2 40s-50s%.  Repeat TTE showed
   worsened high output state, with very small LVH and LVTO. Likely LV
   very stiff and acting like severe diastolic dysfunction.
   - diuresed aggressively, reflected in improved respiratory status
   - goal even today
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +25
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out possibly tomorrow, [**Hospital Unit Name 1**] today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Ms [**Known lastname 12343**] and reviewed her historical, lab, and
   imaging data.  I was present for the key portions of the services
   provided.  I have read Dr [**Last Name (STitle) 9827**]
s note above and agree with his
   findings and plan of care.  Ms [**Known lastname 12343**] was extubated yesterday following
   hypoxemic resp failure felt due to CHF from agitation, tachycardia, and
   flash pulm edema.   She has diuresed nicely and now can be maintained
   I=O.  Her empiric antibiotics are being stopped and her meds will be
   switched as much as possible to oral.  While her mental status is still
   not normal, it is improved compared to prior and we will allow her to
   sit up, eat, etc as we get her ready to go to the floor sometime in the
   next 24 hrs.  Her Hct did fall yesterday, without clear cause, so close
   Hct monitoring is in order.
   35 min spent in this patient
s care.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2112-2-20**] 15:02 ------

2112-02-21 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2112-2-20**]
   - spontaneous conversion to NSR today, neuro exam unremarkable
   - mental status improving over course of day, sundown in evening,
   receiving haldol
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-18**] 09:00 PM
   Piperacillin - [**2112-2-19**] 03:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-20**] 09:42 AM
   Acyclovir - [**2112-2-20**] 07:20 PM
   Bactrim (SMX/TMP) - [**2112-2-20**] 07:21 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-2-20**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-20**] 07:20 PM
   Furosemide (Lasix) - [**2112-2-20**] 07:52 PM
   Haloperidol (Haldol) - [**2112-2-20**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-21**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 81 (74 - 102) bpm
   BP: 145/55(77) {116/43(59) - 163/125(132)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 65.5 kg
   Height: 62 Inch
                  Total In:
                                                                  1,385 mL
                                                                     50 mL
   PO:
                  50 mL
   TF:
   IVF:
                                                                  1,385 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    380 mL
   Urine:
                                                                  1,555 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), systolic ejection murmur
   noted
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: diminished
   at the bases, crackles in lower 2/3s)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, difficult to arouse. Alert
   and oriented to Person, Place, and year ([**Month (only) **])
   Labs / Radiology
   209 K/uL
   9.2 g/dL
   104 mg/dL
   1.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   146 mEq/L
   27.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2112-2-19**]  03:21 AM
                             [**2112-2-19**]  03:53 AM
                             [**2112-2-19**]  03:13 PM
                             [**2112-2-19**]  03:22 PM
                             [**2112-2-19**]  05:41 PM
                             [**2112-2-20**]  03:07 AM
                             [**2112-2-20**]  03:14 AM
                             [**2112-2-20**]  08:21 AM
                             [**2112-2-20**]  04:41 PM
                             [**2112-2-21**]  03:30 AM
   WBC
   10.6
   8.1
   9.0
   Hct
   33.8
   27.3
   25.8
   26.5
   27.7
   Plt
   223
   179
   209
   Cr
   1.6
   1.8
   1.7
   1.5
   TCO2
   33
   36
   35
   37
   Glucose
   115
   108
   97
   104
   Other labs: PT / PTT / INR:13.1/26.1/1.1, CK / CKMB /
   Troponin-T:29/4/0.04, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:338 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.   Now re-intubated with continued altered mental status.
   .
   #. Hypoxic Respiratory failure: Pt has unchanged bilateral pleural.
   Our hypothesis is diastolic dysfunction with severely stiff and small
   LV, and tenuous balance between insufficient preload and overload with
   resulting pulmonary edema   Patient was diuresed aggresively [**Location 12653**]7L.
   On PSV 10/5 currently with RBSI <100.   Barrier to extubation had been
   mental status and tenuous cardiac status, continued to diurese
   pre-extubation given loss of PEEP.  Extubated yesterday without
   incident.  Ongoing discussion with patient, family, and Dr. [**Last Name (STitle) 21**] re:
   plan if patient fails again.  In terms of preventing re-intubation:
   will keep her negative daily with PM prn lasix, will control SBP with
   captopril, will convert HR control from dilt to metopr. d/c dig.
   - haldol PRN for agitation
   - goal Is/Os even today
   - Spontanteously converted to NSR.
   .
   #. Altered mental status: Seems to have started with chemo induction,
   no clear etiology. s/p LP, MRI, infectious w/u all negative. Repeat
   head CT neg yesterday.
   Most consistent with delirium.
   - haldol as above
   - improving today
   - getting patient out of ICU to reverse ICU delerium will likely help
   .
   #  Hct drop- No evidence of hemorrhage on exam.  Will recheck Hct,
   coags, eval for hemolysis if Hct cont to be low.
 stabilized today
   .
   #. Leukocytosis/Fever: Remains afebrile, leukocytosis resolved. On
   vanc, zosyn for empiric coverage.  s/p course of dapto for UTI, empiric
   [**Last Name (un) **].  No positive cx, including stool studies. Head ct shows mastoid
   process
   - will d/c vanc/zosyn today, course completed
   - cont ppx acyclovir and Bactrim
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so she
   will eventually require consideration for anticoagulation. Rate control
   is best achieved with decreased agitation, sedation.
   -Spontaneously converted yesterday without incident.
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
   [**Month (only) 51**] be [**3-8**] TF, however have already been held 24 hours and no
   improvement. All infectious studies negative (c dif neg x 3). Most
   likely [**3-8**] bowel wall edema since improving with diuresis.
   .
   #  ARF- Creatinine rising today with aggressive diuresis. Likely
   ischemic ATN, multifactorial, in setting of probable sepsis, diuresis,
   hypotension, possible additive component of contrast-induced
   nephropathy. Amlyoid/myeloma less likely since no proteinuria.
   Worsened with aggressive diuresis, now stabilized. Tolerating [**Last Name (un) **] to
   achieve optimal diuresis for extubation.
   - appreciate renal recs
   - no indication for RRT
   - [**Name (NI) **] dosing meds
   - continuing to correct on their own
   .
   #. Cardiac Function (MR, pulm HTN)- Cardiac output measured with PA
   catheter ~3, with CI near 2-2.5. SVO2 40s-50s%.  Repeat TTE showed
   worsened high output state, with very small LVH and LVTO. Likely LV
   very stiff and acting like severe diastolic dysfunction.
   - diuresed aggressively, reflected in improved respiratory status
   - goal even today
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +30
   - Appreciate BMT team input into further management
   - Transplant precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out today, [**Hospital Unit Name 1**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mrs [**Known lastname 12343**] and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 11097**]
s note above
   and agree with his findings and plan of care.
   The patient looks more calm and appropriate today. No resp distress,
   though she still has crackles up 30% of the way from her bases, and her
   SBP was 160 this AM.  She converted to NSR on her own last evening, and
   hopefully this will give her a better atrial kick. We will modify her
   cardiac regimen somewhat to keep her mildly diuresed as well as rate
   and BP controlled. She is stable enough to be called out but no bed
   currently available.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2112-2-21**] 17:31 ------

2112-02-22 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Nursing D/C'd Central line
   - No beds on BMT, prob none tomorrow...
   - flipped into AFIB, went into RVR, got 20mg IV Dilt, restarted dig,
   currently on metoprolol at 75mg TID.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Ciprofloxacin
   Rash; Fever/[**Doctor First Name **]
   Oxycodone
   hallucination;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-20**] 09:42 AM
   Acyclovir - [**2112-2-21**] 07:45 PM
   Bactrim (SMX/TMP) - [**2112-2-21**] 07:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-2-21**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2112-2-21**] 07:45 PM
   Haloperidol (Haldol) - [**2112-2-21**] 09:06 PM
   Diltiazem - [**2112-2-22**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-22**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 99 (68 - 132) bpm
   BP: 155/81(101) {125/45(67) - 185/89(103)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 65.7 kg (admission): 65.5 kg
   Height: 62 Inch
                  Total In:
                                                                    740 mL
                                                                     50 mL
   PO:
                                                                    590 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    140 mL
   Urine:
                                                                    775 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -35 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), systolic ejection murmur
   noted
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: diminished
   at the bases, crackles in lower 2/3s)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, difficult to arouse. Alert
   though confused, not responding appropriately
   Labs / Radiology
   226 K/uL
   9.8 g/dL
   101 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.2 mEq/L
   7 mg/dL
   104 mEq/L
   143 mEq/L
   29.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-2-19**]  03:53 AM
                             [**2112-2-19**]  03:13 PM
                             [**2112-2-19**]  03:22 PM
                             [**2112-2-19**]  05:41 PM
                             [**2112-2-20**]  03:07 AM
                             [**2112-2-20**]  03:14 AM
                             [**2112-2-20**]  08:21 AM
                             [**2112-2-20**]  04:41 PM
                             [**2112-2-21**]  03:30 AM
                             [**2112-2-22**]  04:10 AM
   WBC
   8.1
   9.0
   9.3
   Hct
   27.3
   25.8
   26.5
   27.7
   29.3
   Plt
   179
   209
   226
   Cr
   1.8
   1.7
   1.5
   1.1
   TCO2
   33
   36
   35
   37
   Glucose
   108
   97
   104
   101
   Other labs: PT / PTT / INR:13.1/26.1/1.1, CK / CKMB /
   Troponin-T:29/4/0.04, ALT / AST:60/87, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:15/8, Differential-Neuts:54.7 %, Band:1.0 %,
   Lymph:37.9 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:338 IU/L, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   75-year-old woman with history of hypertension and multiple myeloma,
   presented to ICU with tachycardia to 180s in setting of multiple
   refractory episodes of atrial fibrillation with RVR earlier in hospital
   course.
   .
   #. Afib with RVR:  CHADS2 score is 2 (age and hypertension), so and she
   is currently flipping in and out AFIB. I would favor anti-coagulation
   at this point.  We are attemtping rate control with metoprolol at this
   point given her underlying diastolic CHF.
   -Restarted digoxin while in AFIB
   - Consider Increasing metoprolol to 100 if resting HR
s remain in the
   90
   .
   #. Prevention of Hypoxic Respiratory failure:  Our hypothesis is
   diastolic dysfunction with severely stiff and small LV, and tenuous
   balance between insufficient preload and overload with resulting
flash
 pulmonary edema   Patient was diuresed aggresively [**Location 12653**]7L.
   Extubated yesterday without incident.  Ongoing discussion with patient,
   family, and Dr. [**Last Name (STitle) 21**] re: plan if patient fails again.  In terms of
   preventing re-intubation: will keep her negative daily with PM prn
   lasix, will control SBP with captopril, will convert HR control from
   dilt to metopr  and dig.
   - Zydis prn for agitation
   - goal Is/Os slightly negative today
 send out on 20 PO of lasix daily
   and reassess on floor
   -uptitrate captopril and metoprolol prn.
   .
   #. Altered mental status: Seems to have started with chemo induction,
   no clear etiology. s/p LP, MRI, infectious w/u all negative. Repeat
   head CT neg yesterday.  ICU delierium clearly playing a large role.
   - Concern from nursing that haldol may be paradoxical in her, zydis
   better.
   - Standing Zydis TID, increase to 5 if necessary
   - getting patient out of ICU to reverse ICU delerium will likely help
   .
   #Diarrhea:  Patient has been having several days of profuse diarrhea.
   [**Month (only) 51**] be [**3-8**] TF, however have already been held 24 hours and no
   improvement. All infectious studies negative (c dif neg x 3). Most
   likely [**3-8**] bowel wall edema since improving with diuresis.
   - Standing immodium
   .
   #  ARF- Creatinine continues to fall.   Origin likely  multifactorial
   with ischemic ATN, (from past diuresis, hypotension), possible additive
   component of contrast-induced nephropathy and myeolma kidney.
   - continuing to correct on their own
   .
   #. Cardiac Function (MR, pulm HTN)- Cardiac output measured with PA
   catheter ~3, with CI near 2-2.5. SVO2 40s-50s%.  Repeat TTE showed
   worsened high output state, with very small LVH and LVTO. Likely LV
   very stiff and acting like severe diastolic dysfunction.
   - diuresed aggressively, reflected in improved respiratory status
   - goal even to negative today
   - beta blocker, ace inhibitor
   .
   #. Multiple Myeloma s/p now stem cell transplant:
   Patient is SCT day +30
   - Appreciate BMT team input into further management
   - ?Transplant precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-10**] 03:38 PM
   Arterial Line - [**2112-2-10**] 03:44 PM
   Multi Lumen - [**2112-2-14**] 03:15 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out today, [**Hospital Unit Name 1**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 11097**]
s note above
   and agree with his findings and plan of care.  Mrs [**Known lastname 12343**] is back in
   Afib and so we have elected to start coumadin to prevent CVA.  Her CHF
   status is stable, whether in Afib or NSR. She only has a few dry
   crackles on exam and no edema and gas exchange is fine.  Our goal will
   be to treat  her diastolic chf with metoprolol and digoxin for rate
   control, ace inhibitors for afterload reduction, and low dose lasix for
   preload control.  Also we
ll restart olanzepine for her agitation and
   sundowning, which contribute to her tachycardia.  Overall, however, she
   looks good and we
ve called her out to oncology floor with cardiac
   monitoring.
   40min spent in the care of this severely ill patient
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2112-2-22**] 14:48 ------